2190-11-25 06:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Pt extubated
   - lot of secretions, got NT suctioned which helped
   - subjective improvement in breathing
   - Temp to 101.3
   - BP was high 160s, given IV lopressor X2
   - Hct dropped from 41.3,  36.5, 33.9, 33.5
   - Having multiple PVCs, reassed lytes, Magnesium was 1.1, given 4gm,
   bumped to 2.9.  Continues to have PVCs
   - PCP [**Name (NI) 1850**], reviewed medical hx.  Stroke in 99.
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Azithromycin - [**2190-11-24**] 12:48 PM
   Ceftriaxone - [**2190-11-24**] 02:11 PM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2190-11-24**] 11:00 AM
   Fentanyl - [**2190-11-24**] 11:00 AM
   Metoprolol - [**2190-11-25**] 12:16 AM
   Pantoprazole (Protonix) - [**2190-11-25**] 12:34 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-25**] 06:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 36.6
C (97.9
   HR: 98 (89 - 111) bpm
   BP: 161/82(102) {94/43(57) - 196/107(125)} mmHg
   RR: 26 (17 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,792 mL
                                                                    318 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  2,692 mL
                                                                    318 mL
   Blood products:
   Total out:
                                                                  1,105 mL
                                                                    460 mL
   Urine:
                                                                  1,105 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,687 mL
                                                                   -142 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   SpO2: 94%
   ABG: 7.44/39/90.[**Numeric Identifier 433**]/29/1
   Ve: 8.4 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General: awake, alert
   RRR
   Crackles at both bases, diffuse coarse breath sounds
   Abd soft, nontender
   2+ pulses, no edema
   Labs / Radiology
   200 K/uL
   12.0 g/dL
   153 mg/dL
   1.3 mg/dL
   29 mEq/L
   3.6 mEq/L
   18 mg/dL
   101 mEq/L
   140 mEq/L
   35.6 %
   12.6 K/uL
        [image002.jpg]
                            [**2190-11-24**]  07:50 AM
                            [**2190-11-24**]  08:21 AM
                            [**2190-11-24**]  01:51 PM
                            [**2190-11-24**]  01:58 PM
                            [**2190-11-24**]  07:57 PM
                            [**2190-11-25**]  02:38 AM
   WBC
   9.9
   12.6
   Hct
   36.5
   33.9
   33.5
   35.6
   Plt
   222
   200
   Cr
   1.3
   1.3
   TCO2
   29
   27
   Glucose
   268
   153
   Other labs: PT / PTT / INR:19.9/54.7/1.8, ALT / AST:20/37, Alk Phos / T
   Bili:61/0.5, Differential-Neuts:76.0 %, Band:12.0 %, Lymph:8.0 %,
   Mono:4.0 %, Eos:0.0 %, LDH:238 IU/L, Ca++:8.6 mg/dL, Mg++:2.9 mg/dL,
   PO4:2.5 mg/dL
   Fluid analysis / Other labs:
   Flu negative, Legionella negative
   Urine Chemisty:
   UreaN:547
   Creat:67
   Na:32
   Cl:41
   Osmolal:366
   FENA 0.44%
   Imaging: CXR
   Microbiology: Sputum Cx GS pos for G+ cocci in pairs
   Blood and Urine Cx pending
   Assessment and Plan
   ASSESSMENT AND PLAN: 76 yo male who presents hypoxic in the setting of
   coffee ground emesis and URI
   .
   # PNA: concern for CAP s/p URI vs aspiration pneumonitis.  GPC in pairs
   on sputum GS.  Extubated yesterday.  Negative for flu or legionella.
   Copious secretions.  On Ceftiraxone and azithromycin.
   - continue abx, narrow as soon as appropriate
   - f/u cultures
   .
   # Coffee ground emesis: Upper endoscopy negative.  Hct drop yesterday
   now stable.  GIB vs hemoptysis from PNA
   - HCT [**Hospital1 **]
   - IV PPI
   - guiac stools
   - 2 PIV
   - Maintain active type and screen
   .
   # HTN: Given lopressor X2 for SBP >160s.
   - home blood pressure meds held for concern of hypotension from GIB
   - Alpha-Methyldopa 500mg tabs [**Hospital1 **], Cozaar 100mg daily, HCTZ 25mg daily
   will restart when able to take PO
   .
   # Chronic renal insufficiency: Baseline Cr 1.2-1.4.
   .
   # DMII: ISS and QID FS
   - Metformin held.
   .
   # FEN: IV fluid prn, Magnesium was 1.1, given 4gm, bumped to 2.9
   - monitor lytes
   - slowly advance diet
   .
   # PPX:
   - PPI
   - start bowel regimen
   - start SQ heparin and pneumoboots
   .
   # ACCESS: PIV's
   .
   # CODE STATUS: full
   .
   # DISPO: ICU
   .
   # EMERGENCY CONTACT:  [**First Name8 (NamePattern2) 1298**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 8833**] , Khaym [**Doctor Last Name 8834**]
   [**Telephone/Fax (1) 8835**] , Pail Dushan [**Telephone/Fax (1) 8836**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-11-24**] 06:48 AM
   18 Gauge - [**2190-11-24**] 06:50 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2190-11-25 11:37:00 Physician Attending Progress Note
Chief Complaint: Respiratory Distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Coughing productively overnight.  This am alert, comfortable
   24 Hour Events:
 URINE CULTURE - At [**2190-11-24**] 09:03 AM
   ua and spec for legionella sent as well
 ENDOSCOPY - At [**2190-11-24**] 11:00 AM
 SPUTUM CULTURE - At [**2190-11-24**] 11:23 AM
 INVASIVE VENTILATION - STOP [**2190-11-24**] 02:04 PM
 FEVER - 101.3
F - [**2190-11-24**] 12:00 PM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Azithromycin - [**2190-11-24**] 12:48 PM
   Ceftriaxone - [**2190-11-24**] 02:11 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2190-11-25**] 12:16 AM
   Pantoprazole (Protonix) - [**2190-11-25**] 12:34 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: Foley
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: No(t) Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: Anemia
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: slept overnight
   Allergy / Immunology: No(t) Immunocompromised, Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2190-11-25**] 11:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 36.4
C (97.6
   HR: 100 (89 - 111) bpm
   BP: 154/84(100) {103/43(57) - 196/107(125)} mmHg
   RR: 19 (19 - 26) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
                                                                  2,792 mL
                                                                    318 mL
   PO:
                                                                     60 mL
             TF:
   IVF:
                                                                  2,692 mL
                                                                    318 mL
   Blood products:
   Total out:
                                                                  1,105 mL
                                                                    560 mL
   Urine:
                                                                  1,105 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,687 mL
                                                                   -242 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   PIP: 19 cmH2O
   Plateau: 16 cmH2O
   SpO2: 94%
   ABG: 7.44/39/90.[**Numeric Identifier 433**]/29/1
   Ve: 8.4 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: No(t) Cervical WNL
   Cardiovascular: (PMI No(t) Normal, No(t) Hyperdynamic), (S1: Normal,
   No(t) Absent), (S2: Normal, No(t) Distant, No(t) Widely split , No(t)
   Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), lat displaced PMI
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: No(t) Resonant : , No(t) Hyperresonant: , No(t) Dullness :
   ), (Breath Sounds: Crackles : L lower lung field, No(t) Bronchial: ,
   No(t) Wheezes : , No(t) Diminished: , No(t) Absent : , No(t)
   Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   12.0 g/dL
   200 K/uL
   153 mg/dL
   1.3 mg/dL
   29 mEq/L
   3.6 mEq/L
   18 mg/dL
   101 mEq/L
   140 mEq/L
   35.6 %
   12.6 K/uL
        [image002.jpg]
                            [**2190-11-24**]  07:50 AM
                            [**2190-11-24**]  08:21 AM
                            [**2190-11-24**]  01:51 PM
                            [**2190-11-24**]  01:58 PM
                            [**2190-11-24**]  07:57 PM
                            [**2190-11-25**]  02:38 AM
   WBC
   9.9
   12.6
   Hct
   36.5
   33.9
   33.5
   35.6
   Plt
   222
   200
   Cr
   1.3
   1.3
   TCO2
   29
   27
   Glucose
   268
   153
   Other labs: PT / PTT / INR:19.9/54.7/1.8, ALT / AST:20/37, Alk Phos / T
   Bili:61/0.5, Differential-Neuts:76.0 %, Band:12.0 %, Lymph:8.0 %,
   Mono:4.0 %, Eos:0.0 %, LDH:238 IU/L, Ca++:8.6 mg/dL, Mg++:2.9 mg/dL,
   PO4:2.5 mg/dL
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE II
 .H/O HYPERTENSION, BENIGN
 PNEUMONIA, OTHER
 HEMATEMESIS (UPPER GI BLEED, UGIB)
   Sptum from ETT shows polys and 1+ GPC in pairs.  Course is c/w
   Pneumococcal PNA. If cx neg or pos for Strep pneumoniae would narrow
   abx spectrum. Arrival hypertensive in ED makes me wonder if some
   component of his resp failure was pulm edema - will check echo.  He
   improved too rapidly for this to be all PNA.  Hct is stable. Will
   monitor daily but no evidence of signifGIB
   Time spent 35 min
   ICU Care
   Nutrition:
   Comments: starting thickened liq
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-11-24**] 06:48 AM
   18 Gauge - [**2190-11-24**] 06:50 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status:
   Disposition :
   Total time spent: 35 minutes
   ------ Protected Section ------
   CRITICAL CARE
   Difficulty with swallowing this noon then followed by progressive SOB
   and eventually increased BP/HR. Secretions tan but thin and frothy.
   Exam notable for labored breathing, crackles bilat.  Echo done at the
   time
 hyperdynamic, dilated ventricles, some MR, AR. Awaiting formal
   read of echo but clinically he is in pulmonary edema. We have treated
   with NTG, lasix, low dose morphine. Awaiting ECG. R/O for MI.
   Clinically he is in pulm edema.  We will try to stabilize after
   intubation.
   Time spent 75 min
   Critically ill
   ------ Protected Section Addendum Entered By:[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **] [**Last Name (NamePattern1) **], MD
   on:[**2190-11-25**] 16:09 ------

2190-11-26 05:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - In am yesterday episodic HTN w/ BP to 200, started on nitro drip,
   gave 40 mg IV lasix -> breathing improved initially then with
   tachycardia, tachypnea, worsening secretions -> intubated
   - concern for pulmonary edema in setting of elevated BP, concern for
   ischemia -> EKG and cardiac enzymes
   - ECHO: hyperdynamic, diastolic dysfunction
   - temp 103 -> pan cultured
   - coags now normal, recheck in am, no clear etiology
   - hct stable
   - UOP dropped off to <10/hr since midnight, CVP 6-7, given 500ml IVF
   bolus
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Azithromycin - [**2190-11-25**] 12:15 PM
   Ceftriaxone - [**2190-11-25**] 02:17 PM
   Infusions:
   Phenylephrine - 1 mcg/Kg/min
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2190-11-25**] 04:00 PM
   Pantoprazole (Protonix) - [**2190-11-26**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-26**] 05:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 37.1
C (98.7
   HR: 81 (72 - 135) bpm
   BP: 135/72(95) {90/56(72) - 142/111(118)} mmHg
   RR: 18 (17 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 6 (4 - 10)mmHg
   Total In:
                                                                    955 mL
                                                                    172 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                    835 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  2,380 mL
                                                                     30 mL
   Urine:
                                                                  2,380 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,425 mL
                                                                    142 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   Plateau: 21 cmH2O
   SpO2: 98%
   ABG: 7.42/50/373/29/7
   Ve: 9.9 L/min
   PaO2 / FiO2: 746
   Physical Examination
   Intubated, sedated
   Irregular rate
   Diffuse bibasilar crackles
   2+ pulses, no edema
   Labs / Radiology
   297 K/uL
   11.0 g/dL
   165 mg/dL
   2.3 mg/dL
   29 mEq/L
   3.3 mEq/L
   30 mg/dL
   101 mEq/L
   140 mEq/L
   31.7 %
   12.7 K/uL
        [image002.jpg]
                            [**2190-11-24**]  08:21 AM
                            [**2190-11-24**]  01:51 PM
                            [**2190-11-24**]  01:58 PM
                            [**2190-11-24**]  07:57 PM
                            [**2190-11-25**]  02:38 AM
                            [**2190-11-25**]  02:18 PM
                            [**2190-11-25**]  03:57 PM
                            [**2190-11-25**]  05:07 PM
                            [**2190-11-25**]  07:01 PM
                            [**2190-11-26**]  02:49 AM
   WBC
   12.6
   12.7
   Hct
   33.9
   33.5
   35.6
   32.4
   33.3
   31.7
   Plt
   200
   297
   Cr
   1.3
   1.2
   1.3
   2.3
   TropT
   0.02
   TCO2
   29
   27
   34
   Glucose
   153
   916
   247
   165
   Other labs: PT / PTT / INR:13.1/26.3/1.1, CK / CKMB /
   Troponin-T:/4/0.02, ALT / AST:20/37, Alk Phos / T Bili:61/0.5,
   Differential-Neuts:76.0 %, Band:12.0 %, Lymph:8.0 %, Mono:4.0 %,
   Eos:0.0 %, Lactic Acid:1.5 mmol/L, LDH:238 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR:
   ECHO: The left atrium is mildly dilated. There is mild symmetric left
   ventricular hypertrophy with normal cavity size. Regional left
   ventricular wall motion is normal. Left ventricular systolic function
   is hyperdynamic (EF>75%). Tissue Doppler imaging suggests a normal left
   ventricular filling pressure (PCWP<12mmHg). Doppler parameters are most
   consistent with Grade I (mild) left ventricular diastolic dysfunction.
   The right ventricular free wall is hypertrophied. The right ventricular
   cavity is mildly dilated with normal free wall contractility. The
   aortic valve leaflets (3) are mildly thickened but aortic stenosis is
   not present. Trace aortic regurgitation is seen. The mitral valve
   leaflets are mildly thickened. There is no mitral valve prolapse. Mild
   to moderate ([**2-5**]+) mitral regurgitation is seen. There is moderate
   pulmonary artery systolic hypertension. There is an anterior space
   which most likely represents a fat pad.
   Compared with the report of the prior study (images unavailable for
   review) of [**2184-11-1**], the right ventricle is mildly dilated,
   hypertrophic and moderate pulmonary artery systolic hypertension is
   detected.
   Microbiology: Sputum: GS with GPC in pairs, culture pending
   Blood, urine pending
   ECG: EKG:
   Assessment and Plan
   ASSESSMENT AND PLAN: 76 yo male who presents hypoxic in the setting of
   coffee ground emesis and URI with progressive declining respiratory
   status and hypotension.
   #Sepsis: Fevers and hypotension requiring pressors in setting of PNA.
   GPC in pairs on sputum GS.  Negative for flu or legionella.  On
   Ceftiraxone and azithromycin day 3.
   - broaden Abx coverage to cover anaerobes
   - f/u cultures
   - wean pressors as tolerated
   - MAP goal > 65
   .
   # Respiratory failure: concern for CAP s/p URI vs fluid overload vs
   aspiration pneumonitis.  Respiratory decline requiring intubation with
   copious secretions after hypertensive episode.  Seemed to improve with
   lasix and BP control.  ECHO with hyperdynamic LV  but adequate EF.
   Concern for cardiac etiology, EKG and enzymes were done, negative.
   - tx underlying infection
   - wean vent as tolerated
   .
   # Coffee ground emesis: Upper endoscopy negative.  Hct trending down.
   GIB vs hemoptysis from PNA.
   - HCT [**Hospital1 **]
   - IV PPI
   - guiac stools
   - 2 PIV
   - Maintain active type and screen
   .
   # Chronic renal insufficiency: Baseline Cr 1.2-1.4.  Poor UOP.
   Prerenal vs hypotension.  R/o ATN.  Given IVF bolus
   - Urine lytes
   - Monitor UOP in response to bolus
   .
   # HTN: Alpha-Methyldopa 500mg tabs [**Hospital1 **], Cozaar 100mg daily, HCTZ 25mg
   daily will restart when able to take PO
   - home blood pressure meds held for hypotension
   .
   # DMII: ISS and QID FS
   - Metformin held.
   .
   # FEN: IV fluid prn, Magnesium was 1.1, given 4gm, bumped to 2.9
   - monitor lytes
   - slowly advance diet
   .
   # PPX:
   - IV PPI
   - bowel regimen
   - pneumoboots
   .
   # ACCESS: L IJ, A line, PIV
   .
   # CODE STATUS: full
   .
   # DISPO: ICU
   .
   # EMERGENCY CONTACT:  [**First Name8 (NamePattern2) 1298**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 8833**] , Khaym [**Doctor Last Name 8834**]
   [**Telephone/Fax (1) 8835**] , Pail Dushan [**Telephone/Fax (1) 8836**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-11-24**] 06:48 AM
   18 Gauge - [**2190-11-25**] 05:49 PM
   Arterial Line - [**2190-11-25**] 06:37 PM
   Multi Lumen - [**2190-11-25**] 06:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-11-26 10:50:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2190-11-25**] 01:30 PM
   ECHO
 INVASIVE VENTILATION - START [**2190-11-25**] 04:00 PM
 PAN CULTURE - At [**2190-11-25**] 05:16 PM
 ARTERIAL LINE - START [**2190-11-25**] 06:37 PM
 MULTI LUMEN - START [**2190-11-25**] 06:38 PM
 URINE CULTURE - At [**2190-11-25**] 09:10 PM
 FEVER - 103.0
F - [**2190-11-25**] 04:00 PM
   Reintubated. Initially thought likely to be acute CHF but then
   hypotense.  On pressors, then off.
   Patient unable to provide history: Sedated
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Azithromycin - [**2190-11-25**] 12:15 PM
   Ceftriaxone - [**2190-11-25**] 02:17 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2190-11-25**] 04:00 PM
   Pantoprazole (Protonix) - [**2190-11-26**] 12:00 AM
   Other medications:
   SQI, ceftriaxone, PPI, azithro, versed, fentanyl, CHG, bowel reg
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-26**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.4
C (103
   Tcurrent: 37.8
C (100
   HR: 87 (72 - 135) bpm
   BP: 100/59(74) {80/52(62) - 142/111(118)} mmHg
   RR: 17 (17 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 10 (4 - 14)mmHg
   Total In:
                                                                    955 mL
                                                                  1,016 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                    835 mL
                                                                    896 mL
   Blood products:
   Total out:
                                                                  2,380 mL
                                                                    104 mL
   Urine:
                                                                  2,380 mL
                                                                    104 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,425 mL
                                                                    912 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   SpO2: 95%
   ABG: 7.42/50/373/29/7
   Ve: 9.1 L/min
   PaO2 / FiO2: 746
   Physical Examination
   General Appearance: Well nourished
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.0 g/dL
   297 K/uL
   165 mg/dL
   2.3 mg/dL
   29 mEq/L
   3.3 mEq/L
   30 mg/dL
   101 mEq/L
   140 mEq/L
   31.7 %
   12.7 K/uL
        [image002.jpg]
                            [**2190-11-24**]  08:21 AM
                            [**2190-11-24**]  01:51 PM
                            [**2190-11-24**]  01:58 PM
                            [**2190-11-24**]  07:57 PM
                            [**2190-11-25**]  02:38 AM
                            [**2190-11-25**]  02:18 PM
                            [**2190-11-25**]  03:57 PM
                            [**2190-11-25**]  05:07 PM
                            [**2190-11-25**]  07:01 PM
                            [**2190-11-26**]  02:49 AM
   WBC
   12.6
   12.7
   Hct
   33.9
   33.5
   35.6
   32.4
   33.3
   31.7
   Plt
   200
   297
   Cr
   1.3
   1.2
   1.3
   2.3
   TropT
   0.02
   TCO2
   29
   27
   34
   Glucose
   153
   916
   247
   165
   Other labs: PT / PTT / INR:12.8/28.1/1.1, CK / CKMB /
   Troponin-T:/4/0.02, ALT / AST:20/37, Alk Phos / T Bili:61/0.5,
   Differential-Neuts:76.0 %, Band:12.0 %, Lymph:8.0 %, Mono:4.0 %,
   Eos:0.0 %, Lactic Acid:1.5 mmol/L, LDH:238 IU/L, Ca++:8.6 mg/dL,
   Mg++:2.1 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   76-year-old man with
          Respiratory failure
          Shock, likely septic
          Acute renal failure
          GI bleed (now quiescent)
   Source of infection is most likely pulmonary; clinical impression was
   of aspiration.  We will broaden antibiotics to cover nosocomial
   respiratory pathogens while awaiting cultures.  If negative in [**4-7**]
   days, would consider d/c or narrowing.   He is now off of pressors;
   will follow expectantly for now.  For acute renal failure: likely ATN
   related to shock but will check urine lytes, etc.  Other issues as per
   ICU team note today.
   ICU Care
   Nutrition:
   Comments: replace NG (removed due to not working and unclear position
   on CXR)
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2190-11-24**] 06:48 AM
   18 Gauge - [**2190-11-25**] 05:49 PM
   Arterial Line - [**2190-11-25**] 06:37 PM
   Multi Lumen - [**2190-11-25**] 06:38 PM
   Prophylaxis:
   DVT: Boots(start SQH)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 min
   Patient is critically ill

2190-11-27 03:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2190-11-25**] 01:30 PM
   ECHO
 INVASIVE VENTILATION - START [**2190-11-25**] 04:00 PM
 PAN CULTURE - At [**2190-11-25**] 05:16 PM
 ARTERIAL LINE - START [**2190-11-25**] 06:37 PM
 MULTI LUMEN - START [**2190-11-25**] 06:38 PM
 URINE CULTURE - At [**2190-11-25**] 09:10 PM
 FEVER - 103.0
F - [**2190-11-25**] 04:00 PM
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Azithromycin - [**2190-11-26**] 11:58 AM
   Ceftriaxone - [**2190-11-26**] 02:15 PM
   Vancomycin - [**2190-11-26**] 04:30 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Metoprolol - [**2190-11-26**] 08:00 PM
   Diltiazem - [**2190-11-26**] 08:30 PM
   Pantoprazole (Protonix) - [**2190-11-27**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-27**] 03:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 38.8
C (101.8
   HR: 91 (68 - 155) bpm
   BP: 95/54(64) {84/47(61) - 178/101(115)} mmHg
   RR: 20 (17 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 7 (5 - 15)mmHg
   Total In:
                                                                  5,495 mL
                                                                    460 mL
   PO:
   TF:
                                                                     50 mL
                                                                     53 mL
   IVF:
                                                                  5,205 mL
                                                                    307 mL
   Blood products:
   Total out:
                                                                    768 mL
                                                                     30 mL
   Urine:
                                                                    768 mL
                                                                     30 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,727 mL
                                                                    430 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (550 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 30 cmH2O
   Plateau: 20 cmH2O
   SpO2: 100%
   ABG: 7.41/40/178/25/1
   Ve: 11.7 L/min
   PaO2 / FiO2: 356
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   220 K/uL
   9.8 g/dL
   142 mg/dL
   2.0 mg/dL
   25 mEq/L
   3.5 mEq/L
   34 mg/dL
   108 mEq/L
   142 mEq/L
   29.4 %
   8.6 K/uL
        [image002.jpg]
                            [**2190-11-25**]  02:18 PM
                            [**2190-11-25**]  03:57 PM
                            [**2190-11-25**]  05:07 PM
                            [**2190-11-25**]  07:01 PM
                            [**2190-11-26**]  02:49 AM
                            [**2190-11-26**]  09:05 PM
                            [**2190-11-26**]  09:25 PM
                            [**2190-11-27**]  12:02 AM
                            [**2190-11-27**]  02:24 AM
                            [**2190-11-27**]  02:47 AM
   WBC
   12.7
   8.6
   Hct
   32.4
   33.3
   31.7
   29.4
   Plt
   297
   220
   Cr
   1.2
   1.3
   2.3
   2.0
   TropT
   0.02
   TCO2
   34
   27
   26
   26
   Glucose
   [**Telephone/Fax (3) 8876**]42
   Other labs: PT / PTT / INR:12.8/28.1/1.1, CK / CKMB /
   Troponin-T:/4/0.02, ALT / AST:20/37, Alk Phos / T Bili:61/0.5,
   Differential-Neuts:76.0 %, Band:12.0 %, Lymph:8.0 %, Mono:4.0 %,
   Eos:0.0 %, Lactic Acid:1.0 mmol/L, LDH:238 IU/L, Ca++:7.5 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: 76 yo male who presents hypoxic in the setting of
   coffee ground emesis and URI with progressive declining respiratory
   status and hypotension.
   #Sepsis: Fevers and hypotension requiring pressors.  Most likely source
   of fevers and hypotension is underlying pneumonia, given symptoms,
   chest x-ray and  1+ GPC in pairs on sputum GS.  Negative for flu or
   legionella.  Urine and blood cultures are negative.  On Ceftiraxone and
   azithromycin day 5.
   - Vancomycin day 2 for coverage of GPCs.  Would continue ceftriaxone
   for coverage of gram negative organisms and can D/c azithro as five day
   course is complete.  If continues to be febrile over next 24 hrs, would
   consider expanding coverage from ceftriaxone to cefepime to cover
   pseudomonas.  Reculture if spikes.
   -Has been hypertensive and not requiring pressors currently
   - MAP goal > 65
   .
   # Respiratory failure: concern for CAP vs fluid overload vs aspiration
   pneumonitis.  Cardiac etiology less likely an enzymes are negative,
   echo reveals adequate EF.
   -continue tx of PNA as above
   -wean vent as tolerated (reduce PEEP) and attempt switch to pressure
   support
   .
   #Atrial fibrillation w RVR -  Was tachycardic w/ HRs in 160s.  EKG
   obtained revealing atrial fibrillation.  No prior hx of afib.  Likely
   precipitants include fluid overload and HTN.  Got 20 mg IV dilt and
   converted to sinus rhythm.
   -Continue on PO dilt 30 mg qid
   -Has CHADS2 score of 5, so at high risk for developing thrombotic
   complications if atrial fibrillation persists.  Does have hx of coffee
   ground emesis and slow decrease in HCT over last several days.  Would
   hold heparin for now in the setting of possible bleed, but may require
   anticoagulation in future if atrial fibrillation persists.
   -F/u TSH, metanephrines
   .
   # Coffee ground emesis: Upper endoscopy negative.  Hct trending down.
   GIB vs hemoptysis from PNA.
   - HCT [**Hospital1 **]
   - IV PPI
   - guiac stools
   - Maintain active type and screen
   .
   # Chronic renal insufficiency: Baseline Cr 1.2-1.4,  and creatinine
   somewhat responsive to fluid, w/ FeUrea of 10% suggestive of prerenal.
   -Would attempt further fluid challenges today: start w/ 1 L NS bolus
   over 1 hr, assess UOP response.
   -Trend creatinines [**Hospital1 **]
   -Avoid hypoperfusion, nephrotoxic agents
   .
   # HTN: Alpha-Methyldopa 500mg tabs [**Hospital1 **], Cozaar 100mg daily, HCTZ 25mg
   daily will restart when able to take PO
   - home blood pressure meds held for hypotension
   -Continue diltiazem qid
   .
   # DMII: ISS and QID FS
   - Metformin held.
   .
   # FEN: IV fluid prn,
   - start TF
   - monitor lytes
   - slowly advance diet
   .
   # PPX:
   - IV PPI
   - bowel regimen
   - pneumoboots
   .
   # ACCESS: L IJ, A line, PIV
   .
   # CODE STATUS: full
   .
   # DISPO: ICU
   .
   # EMERGENCY CONTACT:  [**First Name8 (NamePattern2) 1298**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 8833**] , Khaym [**Doctor Last Name 8834**]
   [**Telephone/Fax (1) 8835**] , Pail Dushan [**Telephone/Fax (1) 8836**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2190-11-26**] 07:00 PM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-11-24**] 06:48 AM
   18 Gauge - [**2190-11-25**] 05:49 PM
   Arterial Line - [**2190-11-25**] 06:37 PM
   Multi Lumen - [**2190-11-25**] 06:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-11-27 07:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -febrile to 102.6: was recultured
   -tachycardic to 160, EKG obtained was atrial fibrillation; was given
   dilt 20 mg w/ reversion to sinus; placed on 30 mg dilt qid to maintain
   sinus
   -HTN to the 200s, some improvement w. dilt: sent for serum
   catecholamines, TSH
   -2.5 L NS given over day w/ some improvement in UOP
   -tube feeds continued
   -renal US obtained given low UOP: was negative
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Azithromycin - [**2190-11-26**] 11:58 AM
   Ceftriaxone - [**2190-11-26**] 02:15 PM
   Vancomycin - [**2190-11-26**] 04:30 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Metoprolol - [**2190-11-26**] 08:00 PM
   Diltiazem - [**2190-11-26**] 08:30 PM
   Pantoprazole (Protonix) - [**2190-11-27**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-27**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 38.5
C (101.3
   HR: 93 (68 - 155) bpm
   BP: 127/62(340) {80/48(62) - 165/94(340)} mmHg
   RR: 20 (17 - 21) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 277 (5 - 277)mmHg
   Total In:
                                                                  5,495 mL
                                                                  1,253 mL
   PO:
   TF:
                                                                     50 mL
                                                                    150 mL
   IVF:
                                                                  5,205 mL
                                                                    868 mL
   Blood products:
   Total out:
                                                                    768 mL
                                                                    215 mL
   Urine:
                                                                    768 mL
                                                                    215 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,727 mL
                                                                  1,038 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 600) mL
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 27 cmH2O
   Plateau: 20 cmH2O
   SpO2: 97%
   ABG: 7.37/44/157/24/0
   Ve: 10.6 L/min
   PaO2 / FiO2: 314
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   220 K/uL
   9.8 g/dL
   123 mg/dL
   2.0 mg/dL
   24 mEq/L
   3.5 mEq/L
   34 mg/dL
   108 mEq/L
   142 mEq/L
   29.4 %
   8.6 K/uL
        [image002.jpg]
                            [**2190-11-25**]  03:57 PM
                            [**2190-11-25**]  05:07 PM
                            [**2190-11-25**]  07:01 PM
                            [**2190-11-26**]  02:49 AM
                            [**2190-11-26**]  09:05 PM
                            [**2190-11-26**]  09:25 PM
                            [**2190-11-27**]  12:02 AM
                            [**2190-11-27**]  02:24 AM
                            [**2190-11-27**]  02:47 AM
                            [**2190-11-27**]  05:19 AM
   WBC
   12.7
   8.6
   Hct
   33.3
   31.7
   29.4
   Plt
   297
   220
   Cr
   1.3
   2.3
   2.0
   2.0
   TropT
   0.02
   TCO2
   34
   27
   26
   26
   26
   Glucose
   247
   165
   142
   123
   Other labs: PT / PTT / INR:12.8/28.1/1.1, CK / CKMB /
   Troponin-T:/4/0.02, ALT / AST:20/37, Alk Phos / T Bili:61/0.5,
   Differential-Neuts:76.0 %, Band:12.0 %, Lymph:8.0 %, Mono:4.0 %,
   Eos:0.0 %, Lactic Acid:1.0 mmol/L, LDH:238 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   Assessment and Plan
   ASSESSMENT AND PLAN: 76 yo male who presents hypoxic in the setting of
   coffee ground emesis and URI with progressive declining respiratory
   status and hypotension.
   #Sepsis: Fevers and hypotension requiring pressors.  Most likely source
   of fevers and hypotension is underlying pneumonia, given symptoms,
   chest x-ray and  1+ GPC in pairs on sputum GS.  Negative for flu or
   legionella.  Urine and blood cultures are negative.  On Ceftiraxone and
   azithromycin day 5.
   - Vancomycin day 2 for coverage of GPCs.  Would continue ceftriaxone
   for coverage of gram negative organisms and can D/c azithro as five day
   course is complete.  If continues to be febrile over next 24 hrs, would
   consider expanding coverage from ceftriaxone to cefepime to cover
   pseudomonas.  Reculture if spikes.
   -Has been hypertensive and not requiring pressors currently
   - MAP goal > 65
   .
   # Respiratory failure: concern for CAP vs fluid overload vs aspiration
   pneumonitis.  Cardiac etiology less likely an enzymes are negative,
   echo reveals adequate EF.
   -continue tx of PNA as above
   -wean vent as tolerated (reduce PEEP) and attempt switch to pressure
   support
   .
   #Atrial fibrillation w RVR -  Was tachycardic w/ HRs in 160s.  EKG
   obtained revealing atrial fibrillation.  No prior hx of afib.  Likely
   precipitants include fluid overload and HTN.  Got 20 mg IV dilt and
   converted to sinus rhythm.
   -Continue on PO dilt 30 mg qid
   -Has CHADS2 score of 5, so at high risk for developing thrombotic
   complications if atrial fibrillation persists.  Does have hx of coffee
   ground emesis and slow decrease in HCT over last several days.  Would
   hold heparin for now in the setting of possible bleed, but may require
   anticoagulation in future if atrial fibrillation persists.
   -F/u TSH, metanephrines
   .
   # Coffee ground emesis: Upper endoscopy negative.  Hct trending down.
   GIB vs hemoptysis from PNA.
   - HCT [**Hospital1 **]
   - IV PPI
   - guiac stools
   - Maintain active type and screen
   .
   # Chronic renal insufficiency: Baseline Cr 1.2-1.4,  and creatinine
   somewhat responsive to fluid, w/ FeUrea of 10% suggestive of prerenal.
   -Would attempt further fluid challenges today: start w/ 1 L NS bolus
   over 1 hr, assess UOP response.
   -Trend creatinines [**Hospital1 **]
   -Avoid hypoperfusion, nephrotoxic agents
   .
   # HTN: Alpha-Methyldopa 500mg tabs [**Hospital1 **], Cozaar 100mg daily, HCTZ 25mg
   daily will restart when able to take PO
   - home blood pressure meds held for hypotension
   -Continue diltiazem qid
   .
   # DMII: ISS and QID FS
   - Metformin held.
   .
   # FEN: IV fluid prn,
   - start TF
   - monitor lytes
   - slowly advance diet
   .
   # PPX:
   - IV PPI
   - bowel regimen
   - pneumoboots
   .
   # ACCESS: L IJ, A line, PIV
   .
   # CODE STATUS: full
   .
   # DISPO: ICU
   .
   # EMERGENCY CONTACT:  [**First Name8 (NamePattern2) 1298**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 8833**] , Khaym [**Doctor Last Name 8834**]
   [**Telephone/Fax (1) 8835**] , Pail Dushan [**Telephone/Fax (1) 8836**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2190-11-26**] 07:00 PM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-11-24**] 06:48 AM
   Arterial Line - [**2190-11-25**] 06:37 PM
   Multi Lumen - [**2190-11-25**] 06:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-11-27 10:06:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:  Respiratory failure, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ULTRASOUND - At [**2190-11-26**] 01:00 PM
   Renal
 BLOOD CULTURED - At [**2190-11-26**] 02:49 PM
 BLOOD CULTURED - At [**2190-11-26**] 03:09 PM
 SPUTUM CULTURE - At [**2190-11-26**] 03:09 PM
 URINE CULTURE - At [**2190-11-26**] 04:30 PM
 EKG - At [**2190-11-26**] 07:45 PM
   shows new onset atrial fibrillation w/ RVR, rate 170
 FEVER - 102.7
F - [**2190-11-26**] 08:00 PM
   -Episode of afib spont converted to NSR
   History obtained from Medical records
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Azithromycin - [**2190-11-26**] 11:58 AM
   Ceftriaxone - [**2190-11-26**] 02:15 PM
   Vancomycin - [**2190-11-26**] 04:30 PM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Metoprolol - [**2190-11-26**] 08:00 PM
   Diltiazem - [**2190-11-26**] 08:30 PM
   Pantoprazole (Protonix) - [**2190-11-27**] 12:00 AM
   Heparin Sodium (Prophylaxis) - [**2190-11-27**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-27**] 10:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.3
C (102.7
   Tcurrent: 38.4
C (101.1
   HR: 94 (68 - 155) bpm
   BP: 127/62(340) {82/48(62) - 165/94(340)} mmHg
   RR: 20 (17 - 21) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 9 (5 - 15)mmHg
   Total In:
                                                                  5,495 mL
                                                                  1,644 mL
   PO:
   TF:
                                                                     50 mL
                                                                    188 mL
   IVF:
                                                                  5,205 mL
                                                                  1,081 mL
   Blood products:
   Total out:
                                                                    768 mL
                                                                    475 mL
   Urine:
                                                                    768 mL
                                                                    475 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,727 mL
                                                                  1,169 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 600) mL
   Vt (Spontaneous): 507 (419 - 507) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: No Spon Resp
   PIP: 17 cmH2O
   SpO2: 99%
   ABG: 7.36/46/154/24/0
   Ve: 12.6 L/min
   PaO2 / FiO2: 308
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, No(t) Poor dentition,
   Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : anteriorly)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.8 g/dL
   220 K/uL
   142 mg/dL
   2.0 mg/dL
   24 mEq/L
   3.5 mEq/L
   34 mg/dL
   108 mEq/L
   142 mEq/L
   29.4 %
   8.6 K/uL
        [image002.jpg]
                            [**2190-11-25**]  05:07 PM
                            [**2190-11-25**]  07:01 PM
                            [**2190-11-26**]  02:49 AM
                            [**2190-11-26**]  09:05 PM
                            [**2190-11-26**]  09:25 PM
                            [**2190-11-27**]  12:02 AM
                            [**2190-11-27**]  02:24 AM
                            [**2190-11-27**]  02:47 AM
                            [**2190-11-27**]  05:19 AM
                            [**2190-11-27**]  08:44 AM
   WBC
   12.7
   8.6
   Hct
   33.3
   31.7
   29.4
   Plt
   297
   220
   Cr
   2.3
   2.0
   2.0
   TCO2
   34
   27
   26
   26
   26
   27
   Glucose
   165
   142
   123
   142
   Other labs: PT / PTT / INR:12.8/28.1/1.1, CK / CKMB /
   Troponin-T:/4/0.02, ALT / AST:20/37, Alk Phos / T Bili:61/0.5,
   Differential-Neuts:76.0 %, Band:12.0 %, Lymph:8.0 %, Mono:4.0 %,
   Eos:0.0 %, Lactic Acid:1.0 mmol/L, LDH:238 IU/L, Ca++:7.7 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
   -rate into 160s
   -spont converted to NSR
   -cont dilt
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   -despite abx cont to spike
   -broaden abx to cover pseudomonas
 HYPOTENSION (NOT SHOCK)
   -intermittently requiring pressors, currently off
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 DIABETES MELLITUS (DM), TYPE II
  HYPERTENSION
   -BP labile with episodes HTN alternating with episodes hypotension
   requiring pressors
   -cont dilt
 PNEUMONIA
 HEMATEMESIS (UPPER GI BLEED, UGIB)
   -coffee ground emesis
   -no BRB on lavage
   -PPI
   -serial hct, if drop consider EGD
   For remainder of plan, please see resident note for full detail.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2190-11-26**] 07:00 PM 20 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-11-24**] 06:48 AM
   Arterial Line - [**2190-11-25**] 06:37 PM
   Multi Lumen - [**2190-11-25**] 06:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2190-11-28 07:27:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - continued vanco and ceftriaxone
   - fever -> pancultured
   - started on nebs
   - hold on anticoagulation unless converts to a fib again
   - PM Cr = 1.7 down from 2.0, making good urine
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2190-11-26**] 04:30 PM
   Azithromycin - [**2190-11-27**] 11:51 AM
   Ceftriaxone - [**2190-11-27**] 02:00 PM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-11-27**] 04:55 PM
   Midazolam (Versed) - [**2190-11-27**] 05:47 PM
   Labetalol - [**2190-11-27**] 05:48 PM
   Pantoprazole (Protonix) - [**2190-11-27**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-28**] 07:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.2
   Tcurrent: 37.6
C (99.6
   HR: 84 (76 - 112) bpm
   BP: 155/78(346) {81/42(60) - 313/310(346)} mmHg
   RR: 20 (19 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 11 (3 - 11)mmHg
   Total In:
                                                                  5,835 mL
                                                                    704 mL
   PO:
   TF:
                                                                    980 mL
                                                                    388 mL
   IVF:
                                                                  4,120 mL
                                                                    116 mL
   Blood products:
   Total out:
                                                                  1,380 mL
                                                                    270 mL
   Urine:
                                                                  1,380 mL
                                                                    270 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,455 mL
                                                                    434 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 507 (419 - 507) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 57
   PIP: 26 cmH2O
   Plateau: 19 cmH2O
   SpO2: 99%
   ABG: 7.36/46/154/24/0
   Ve: 10.7 L/min
   PaO2 / FiO2: 308
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   219 K/uL
   9.1 g/dL
   206 mg/dL
   1.5 mg/dL
   24 mEq/L
   4.1 mEq/L
   32 mg/dL
   110 mEq/L
   142 mEq/L
   26.2 %
   7.0 K/uL
        [image002.jpg]
                            [**2190-11-26**]  02:49 AM
                            [**2190-11-26**]  09:05 PM
                            [**2190-11-26**]  09:25 PM
                            [**2190-11-27**]  12:02 AM
                            [**2190-11-27**]  02:24 AM
                            [**2190-11-27**]  02:47 AM
                            [**2190-11-27**]  05:19 AM
                            [**2190-11-27**]  08:44 AM
                            [**2190-11-27**]  04:09 PM
                            [**2190-11-28**]  04:11 AM
   WBC
   12.7
   8.6
   8.9
   7.0
   Hct
   31.7
   29.4
   28.2
   26.2
   Plt
   297
   220
   221
   219
   Cr
   2.3
   2.0
   2.0
   1.7
   1.5
   TCO2
   27
   26
   26
   26
   27
   Glucose
   165
   142
   123
   142
   172
   206
   Other labs: PT / PTT / INR:11.8/31.5/1.0, CK / CKMB /
   Troponin-T:/4/0.02, ALT / AST:20/37, Alk Phos / T Bili:61/0.5,
   Differential-Neuts:73.5 %, Band:12.0 %, Lymph:18.0 %, Mono:4.8 %,
   Eos:3.4 %, Lactic Acid:1.0 mmol/L, LDH:238 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Fluid analysis / Other labs: TSH 1.7
   UA: large blood
   Imaging: CXR
   Microbiology: Sputum:
     1+ GRAM NEGATIVE ROD(S).
   Blood and Urine Cx: negative or pending
   Assessment and Plan
   76 yo male who presents hypoxic in the setting of coffee ground emesis
   and URI with progressive declining respiratory status and hypotension.
   #Sepsis: Most likely source of fevers is underlying pneumonia, given
   symptoms, chest x-ray and  1+ GPC in pairs on sputum GS.  Negative for
   flu or legionella.  Urine and blood cultures are negative.  On
   Ceftiraxone day 6, Vancomycin day 3 for coverage of GPCs, completed 5
   day course azithro.
   - D/c azithro
   - Add zosyn and levoquin
   - Has been hypertensive and not requiring pressors currently
   - MAP goal > 65
   # Respiratory failure: concern for PNA vs fluid overload vs aspiration
   pneumonitis.  Cardiac etiology less likely an enzymes are negative,
   echo reveals adequate EF.
   -continue tx of PNA as above
   -wean vent as tolerated (reduce PEEP) and attempt switch to pressure
   support
   #Atrial fibrillation w RVR -  Was tachycardic w/ HRs in 160s.  EKG
   obtained revealing atrial fibrillation.  No prior hx of afib.  Likely
   precipitants include fluid overload and HTN.  Got 20 mg IV dilt and
   converted to sinus rhythm.
   -Change PO dilt 30 mg to TID
   -Has CHADS2 score of 5, so at high risk for developing thrombotic
   complications if atrial fibrillation persists.  Does have hx of coffee
   ground emesis and slow decrease in HCT over last several days.  Would
   hold heparin for now in the setting of possible bleed, but may require
   anticoagulation in future if atrial fibrillation persists.
   - F/u TSH, metanephrines
   # Coffee ground emesis: Upper endoscopy negative.  Hct trending down.
   GIB vs hemoptysis from PNA.  Hct trending down.
   - repeat NG lavage
   - HCT [**Hospital1 **]
   - IV PPI
   - guiac stools, no BM since admission
   - Maintain active type and screen
   # Chronic renal insufficiency: Baseline Cr 1.2-1.4 and creatinine
   somewhat responsive to fluid, w/ FeUrea of 10% suggestive of prerenal.
   -Would attempt further fluid challenges today: start w/ 1 L NS bolus
   over 1 hr, assess UOP response.
   -Trend creatinines [**Hospital1 **]
   -Avoid hypoperfusion, nephrotoxic agents
   # HTN: Home meds: Alpha-Methyldopa 500mg tabs [**Hospital1 **], Cozaar 100mg daily,
   HCTZ 25mg daily will restart when able to take PO
   - home blood pressure meds held for hypotension
   -Continue diltiazem tid
   # DMII: ISS and QID FS
   - Metformin held.
   # FEN: IV fluid prn,
   - start TF
   - monitor lytes
   - slowly advance diet
   # PPX:
   - IV PPI
   - bowel regimen- increase because no BM, add senna
   - pneumoboots
   # ACCESS: L IJ, A line, PIV
   # CODE STATUS: full
   # DISPO: ICU
   # EMERGENCY CONTACT:  [**First Name8 (NamePattern2) 1298**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 8833**] , Khaym [**Doctor Last Name 8834**]
   [**Telephone/Fax (1) 8835**] , Pail Dushan [**Telephone/Fax (1) 8836**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2190-11-27**] 11:27 PM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2190-11-25**] 06:37 PM
   Multi Lumen - [**2190-11-25**] 06:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-11-28 10:44:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:  Respiratory failure, pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 FEVER - 103.2
F - [**2190-11-27**] 08:00 PM
       -Pan Cx
 Remains off pressors since yesterday
   History obtained from Medical records
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2190-11-26**] 04:30 PM
   Azithromycin - [**2190-11-27**] 11:51 AM
   Ceftriaxone - [**2190-11-27**] 02:00 PM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-11-27**] 04:55 PM
   Midazolam (Versed) - [**2190-11-27**] 05:47 PM
   Labetalol - [**2190-11-27**] 05:48 PM
   Pantoprazole (Protonix) - [**2190-11-27**] 11:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-28**] 10:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 39.6
C (103.2
   Tcurrent: 37.8
C (100
   HR: 77 (76 - 112) bpm
   BP: 99/54(71) {81/42(60) - 313/310(346)} mmHg
   RR: 20 (19 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 8 (3 - 11)mmHg
   Total In:
                                                                  5,835 mL
                                                                    947 mL
   PO:
   TF:
                                                                    980 mL
                                                                    575 mL
   IVF:
                                                                  4,120 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  1,380 mL
                                                                    490 mL
   Urine:
                                                                  1,380 mL
                                                                    490 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,455 mL
                                                                    457 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   PS : 5 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 57
   PIP: 25 cmH2O
   Plateau: 19 cmH2O
   SpO2: 97%
   ABG: ///24/
   Ve: 10.5 L/min
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   9.1 g/dL
   219 K/uL
   206 mg/dL
   1.5 mg/dL
   24 mEq/L
   4.1 mEq/L
   32 mg/dL
   110 mEq/L
   142 mEq/L
   26.2 %
   7.0 K/uL
        [image002.jpg]
                            [**2190-11-26**]  02:49 AM
                            [**2190-11-26**]  09:05 PM
                            [**2190-11-26**]  09:25 PM
                            [**2190-11-27**]  12:02 AM
                            [**2190-11-27**]  02:24 AM
                            [**2190-11-27**]  02:47 AM
                            [**2190-11-27**]  05:19 AM
                            [**2190-11-27**]  08:44 AM
                            [**2190-11-27**]  04:09 PM
                            [**2190-11-28**]  04:11 AM
   WBC
   12.7
   8.6
   8.9
   7.0
   Hct
   31.7
   29.4
   28.2
   26.2
   Plt
   297
   220
   221
   219
   Cr
   2.3
   2.0
   2.0
   1.7
   1.5
   TCO2
   27
   26
   26
   26
   27
   Glucose
   165
   142
   123
   142
   172
   206
   Other labs: PT / PTT / INR:11.8/31.5/1.0, CK / CKMB /
   Troponin-T:/4/0.02, ALT / AST:20/37, Alk Phos / T Bili:61/0.5,
   Differential-Neuts:73.5 %, Band:12.0 %, Lymph:18.0 %, Mono:4.8 %,
   Eos:3.4 %, Lactic Acid:1.0 mmol/L, LDH:238 IU/L, Ca++:8.1 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Imaging: cxr- new RLL patchy infiltrate since last film
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
   -rate into 160s
   -spont converted to NSR
   -cont dilt
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   -despite abx cont to spike
   -broaden abx to cover pseudomonas, anaerobes
 HYPOTENSION (NOT SHOCK)
   -intermittently requiring pressors, has been off them since yesterday
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
   -creat below previous baseline
   -making urine
 DIABETES MELLITUS (DM), TYPE II
   -SSRI
  HYPERTENSION
   -BP labile with episodes HTN alternating with episodes hypotension
   requiring pressors
   -cont dilt

 PNEUMONIA
   -new RLL infiltrate
   -? Aspiration
 HEMATEMESIS (UPPER GI BLEED, UGIB)
   -PPI
   -serial hct, if drop consider repeat EGD
   For remainder of plan, please see resident note for full detail.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2190-11-27**] 11:27 PM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2190-11-25**] 06:37 PM
   Multi Lumen - [**2190-11-25**] 06:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU
   Patient is critically ill
   Total time spent: 40 minutes

2190-11-29 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Hct trending down but stable, unclear etiology, urine with 26 RBC, NG
   lavage negative
   - optimize bowel regimen given no BM since admission, then guiac
   - Fever to 102
   - Weaned to PSV x1hr
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Ceftriaxone - [**2190-11-27**] 02:00 PM
   Vancomycin - [**2190-11-28**] 08:00 AM
   Azithromycin - [**2190-11-28**] 12:00 PM
   Levofloxacin - [**2190-11-28**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2190-11-29**] 06:19 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2190-11-29**] 12:15 AM
   Heparin Sodium (Prophylaxis) - [**2190-11-29**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-29**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 37.7
C (99.8
   HR: 86 (77 - 109) bpm
   BP: 143/64(93) {92/51(0) - 177/101(126)} mmHg
   RR: 20 (12 - 23) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 9 (7 - 18)mmHg
   Total In:
                                                                  2,837 mL
                                                                    711 mL
   PO:
   TF:
                                                                  1,320 mL
                                                                    402 mL
   IVF:
                                                                  1,017 mL
                                                                    309 mL
   Blood products:
   Total out:
                                                                  1,480 mL
                                                                    460 mL
   Urine:
                                                                  1,480 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,357 mL
                                                                    251 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 652 (622 - 652) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 40
   PIP: 21 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: 7.36/50/143/25/2
   Ve: 10 L/min
   PaO2 / FiO2: 286
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   237 K/uL
   8.7 g/dL
   187 mg/dL
   1.3 mg/dL
   25 mEq/L
   4.2 mEq/L
   29 mg/dL
   109 mEq/L
   143 mEq/L
   25.4 %
   6.9 K/uL
        [image002.jpg]
                            [**2190-11-27**]  02:24 AM
                            [**2190-11-27**]  02:47 AM
                            [**2190-11-27**]  05:19 AM
                            [**2190-11-27**]  08:44 AM
                            [**2190-11-27**]  04:09 PM
                            [**2190-11-28**]  04:11 AM
                            [**2190-11-28**]  12:03 PM
                            [**2190-11-28**]  02:25 PM
                            [**2190-11-29**]  03:36 AM
                            [**2190-11-29**]  04:38 AM
   WBC
   8.6
   8.9
   7.0
   7.3
   6.9
   Hct
   29.4
   28.2
   26.2
   25.3
   25.4
   Plt
   220
   221
   219
   224
   237
   Cr
   2.0
   1.7
   1.5
   1.3
   TCO2
   26
   26
   27
   28
   29
   Glucose
   123
   142
   172
   206
   187
   Other labs: PT / PTT / INR:11.8/31.5/1.0, CK / CKMB /
   Troponin-T:/4/0.02, ALT / AST:20/37, Alk Phos / T Bili:61/0.5,
   Differential-Neuts:73.5 %, Band:12.0 %, Lymph:18.0 %, Mono:4.8 %,
   Eos:3.4 %, Lactic Acid:1.0 mmol/L, LDH:238 IU/L, Ca++:8.3 mg/dL,
   Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR negative
   Microbiology: Blood cx pending
   Assessment and Plan
   76 yo male who presents hypoxic in the setting of coffee ground emesis
   and URI with progressive declining respiratory status and hypotension.
   #Sepsis: Most likely source of fevers is underlying pneumonia, given
   symptoms, chest x-ray and  1+ GPC in pairs on sputum GS.  Negative for
   flu or legionella.  Urine and blood cultures are negative.  On
   Ceftiraxone day 7, Vancomycin day 2 for coverage of GPCs, Zosyn/levo
   day 2 after 6d ceftriaxone, completed 5 day course azithro.  With
   elevated BP and not requiring pressors currently
   - maintain MAP goal > 65
   # Respiratory failure: likely bacterial PNA on top of ? viral vs
   aspiration pneumonitis.  Cardiac etiology and fluid overload  less
   likely an enzymes are negative, echo reveals adequate EF.  Only
   tolerated limited PSV yesterday.
   -continue tx of PNA as above
   -wean vent as tolerated (reduce PEEP) and attempt switch to pressure
   support
   #Atrial fibrillation w RVR -  One episode of tachycardia w/ HRs in 160s
   2d ago.  EKG obtained revealing atrial fibrillation.  No prior hx of
   afib.  Likely precipitants include fluid overload and HTN.  Got 20 mg
   IV dilt and converted to sinus rhythm.  Started on dilt 30mg TID
   -Has CHADS2 score of 5, so at high risk for developing thrombotic
   complications if atrial fibrillation persists.  Does have hx of coffee
   ground emesis and slow decrease in HCT over last several days.  Would
   hold heparin for now in the setting of possible bleed, but may require
   anticoagulation in future if atrial fibrillation persists.
   # Coffee ground emesis: Upper endoscopy negative.  Hct trending down.
   GIB vs hemoptysis from PNA.  Hct trending down but stable.  Repeat NG
   lavage negative.
   - HCT [**Hospital1 **]
   - IV PPI
   - guiac stools, no BM since admission
   - Maintain active type and screen
   # Chronic renal insufficiency: Cr at baseline of 1.2-1.4 and creatinine
   somewhat responsive to fluid, w/ FeUrea of 10% suggestive of prerenal.
    UOP improved.
   - Fluid challenge as needed to maintain UOP >50cc/hr
   -Trend creatinines daily
   -Avoid hypoperfusion, nephrotoxic agents
   # HTN: Home meds: Alpha-Methyldopa 500mg tabs [**Hospital1 **], Cozaar 100mg daily,
   HCTZ 25mg daily will restart when able to take PO
   - home blood pressure meds held for hypotension
   -Continue diltiazem tid
   # DMII: ISS and QID FS
   - Metformin held.
   # FEN: IV fluid prn,
   - on  TF
   - monitor lytes
   # PPX:
   - IV PPI
   - bowel regimen (colace, senna, lactulose PRN)
   - pneumoboots
   # ACCESS: L IJ, A line, PIV
   # CODE STATUS: full
   # DISPO: ICU
   # EMERGENCY CONTACT:  [**First Name8 (NamePattern2) 1298**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 8833**] , Khaym [**Doctor Last Name 8834**]
   [**Telephone/Fax (1) 8835**] , Pail Dushan [**Telephone/Fax (1) 8836**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2190-11-28**] 05:38 PM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2190-11-25**] 06:37 PM
   Multi Lumen - [**2190-11-25**] 06:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-11-30 07:16:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 FEVER - 101.1
F - [**2190-11-29**] 08:00 PM
   --goal = couple L negative, negative 1L at 9pm
   --All ABx d/c'd
   --PM lytes with stable Cr, normal lytes
   --Left on vent with full support
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Ceftriaxone - [**2190-11-27**] 02:00 PM
   Azithromycin - [**2190-11-28**] 12:00 PM
   Levofloxacin - [**2190-11-28**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2190-11-29**] 06:19 AM
   Vancomycin - [**2190-11-29**] 08:00 AM
   Infusions:
   Fentanyl - 25 mcg/hour
   Midazolam (Versed) - 1 mg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2190-11-29**] 10:17 PM
   Pantoprazole (Protonix) - [**2190-11-30**] 12:17 AM
   Heparin Sodium (Prophylaxis) - [**2190-11-30**] 12:17 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-11-30**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.2
C (100.8
   HR: 108 (80 - 108) bpm
   BP: 113/55(68) {113/55(68) - 139/55(73)} mmHg
   RR: 23 (18 - 23) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 11 (7 - 13)mmHg
   Total In:
                                                                  2,156 mL
                                                                    512 mL
   PO:
   TF:
                                                                  1,321 mL
                                                                    395 mL
   IVF:
                                                                    715 mL
                                                                    117 mL
   Blood products:
   Total out:
                                                                  3,760 mL
                                                                  1,210 mL
   Urine:
                                                                  3,760 mL
                                                                  1,210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,604 mL
                                                                   -698 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 580 (362 - 580) mL
   PS : 14 cmH2O
   RR (Set): 20
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 87
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   SpO2: 97%
   ABG: 7.44/44/136/29/5
   Ve: 9.9 L/min
   PaO2 / FiO2: 340
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   303 K/uL
   9.5 g/dL
   220 mg/dL
   1.3 mg/dL
   29 mEq/L
   4.1 mEq/L
   29 mg/dL
   105 mEq/L
   144 mEq/L
   28.8 %
   9.8 K/uL
        [image002.jpg]
                            [**2190-11-27**]  08:44 AM
                            [**2190-11-27**]  04:09 PM
                            [**2190-11-28**]  04:11 AM
                            [**2190-11-28**]  12:03 PM
                            [**2190-11-28**]  02:25 PM
                            [**2190-11-29**]  03:36 AM
                            [**2190-11-29**]  04:38 AM
                            [**2190-11-29**]  07:39 PM
                            [**2190-11-30**]  03:42 AM
                            [**2190-11-30**]  06:13 AM
   WBC
   8.9
   7.0
   7.3
   6.9
   9.8
   Hct
   28.2
   26.2
   25.3
   25.4
   28.8
   Plt
   221
   219
   224
   237
   303
   Cr
   1.7
   1.5
   1.3
   1.3
   1.3
   TCO2
   27
   28
   29
   31
   Glucose
   142
   172
   206
   187
   215
   220
   Other labs: PT / PTT / INR:11.8/31.5/1.0, CK / CKMB /
   Troponin-T:/4/0.02, ALT / AST:35/54, Alk Phos / T Bili:132/0.2, Amylase
   / Lipase:/43, Differential-Neuts:73.5 %, Band:12.0 %, Lymph:18.0 %,
   Mono:4.8 %, Eos:3.4 %, Lactic Acid:1.0 mmol/L, LDH:238 IU/L, Ca++:8.6
   mg/dL, Mg++:1.7 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 HYPERTENSION, BENIGN
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 .H/O HYPERTENSION, BENIGN
 PNEUMONIA, OTHER
   76 yo male who presents hypoxic in the setting of coffee ground emesis
   and URI with progressive declining respiratory status and hypotension.
   Now with persistent fevers and altered mental status
   # Persistent fevers: The patient no longer has sepsis physiology, but
   continues to be febrile when he is not receiving Tylenol.  Cooling
   blanket in place, yesterday we stopped abx as there was no source
   identified and his initial leukocytosis had resolved.  He does have a
   worsening retrocardiac opacity.  Lipase normal, suggesting this is not
   pancreatitis (pt has history of pancreatic ca).  CXR unchanged this
   morning and all cultures negative to date.  Other possibilities include
   drug fever, malignancy or rheumatologic source.
   - Repeat cultures now that patient is off of antibiotics.
   - Cannot check HIV status at the moment as the patient does not have a
   designated health care proxy.
   - Had a positive RF in [**Name (NI) 319**], unclear why tested.  Touch base with
   PCP, [**Last Name (NamePattern4) **]. [**Last Name (STitle) 8947**].
   - Trend fever curve.
   # Respiratory failure: Yesterday did poorly with spontaneous breathing
   trial, but now tolerating CPAP well.  Likely viral PNA vs aspiration
   pneumonitis.  Fluid overload also likely contributing though echo
   reveals hyperdynamic EF.  We will continue to diurese aggressively.
   - Responding well to diuresis without rise in Cr. Continue today with
   Lasix boluses of 40mg IV x2, goal negative 1.5 to 2L.
   - Continue pressure support, plan for spontaneous breathing trial
   tomorrow..
   #Atrial fibrillation w RVR
 Had one episode of tachycardia w/ HRs in
   160s 2d due to Afib w/ RVR.  No prior hx of afib.  Likely precipitants
   include fluid overload and HTN.  Now rate controlled with diltiazem.
   Will likely require anti-coagulation given high CHADS score, holding
   off for now given recent GI bleed.
   # HTN: Hypertensive overnight and started on Hydralazine 10mg Q6hrs.
   Home meds: Alpha-Methyldopa 500mg tabs [**Hospital1 **], Cozaar 100mg daily, HCTZ
   25mg daily will restart when able to take PO.
   - started on hydralazine overnight which we will stop today as he has
   slightly low BPs.
   - home blood pressure meds initially held for hypotension.  Holding
   Cozaar because of renal impairment and HCTZ while he is being
   diuresed.  Yesterday we restarted Alpha-Methyldopa.  If he is
   hypertensive again we will titrate up his diltiazem.
   # Constipation: He has not had a bowel movement since his arrival,
   though he has been getting lactulose and dulcolax.  Today we will try a
   suppository and if that does not work, give a soap suds enema.
   # Coffee ground emesis: Upper endoscopy and NG lavage negative.
   Hematocrit now stable.  Will hold off on further work-up at this time.
   - Continue IV PPI, can transfer to PO when able.
   - guiac stools when able - BM since admission
   - Maintain active type and screen
   # Chronic renal insufficiency: Cr at baseline of 1.2-1.4 with fluid
   re-hydration.
   -Trend creatinines daily
   -Avoid hypoperfusion, nephrotoxic agents
   # DMII: ISS and QID FS.  Yesterday sugars were stably elevated to 200s.
   - Give half of insulin as QHS lantus.
   - Metformin held in setting of increased Cr and requiring scans.
   # FEN: IV fluid prn,
   - on  TF
   - monitor lytes
   # PPX:
   - IV PPI
   - bowel regimen (colace, senna, lactulose PRN)
   - pneumoboots and Heparin SC.
   # ACCESS: L IJ, A line, PIV
   # CODE STATUS: full
   # DISPO: ICU
   # EMERGENCY CONTACT:  [**First Name8 (NamePattern2) 1298**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 8833**] , Khaym [**Doctor Last Name 8834**]
   [**Telephone/Fax (1) 8835**] , Pail Dushan [**Telephone/Fax (1) 8836**]
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2190-11-30**] 05:58 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2190-11-25**] 06:37 PM
   Multi Lumen - [**2190-11-25**] 06:38 PM
   Prophylaxis:
   DVT: Heparin SC.
   Stress ulcer: Frequent movements
   VAP:  Elevated HOB and mouth hygiene.
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU pending improved respiratory status.

2190-12-01 07:24:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Off sedation from 11am, responding well to questions, says he feels
   comfortable.  In evening, uncomfortable, given light sedation again.
   - On pressure support of 5 pressure support/5 of PEEP during afternoon,
   did well for several hours, then developed tachycardia.  Will check
   RSBI in AM.
   - Negative 1.1L at 5pm with contraction alkalosis, no changes made.
   - Started on Lantus 6 units.
   - RUQ U/S
   - Patient positive since midnight -> lasix given at 6am.
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Azithromycin - [**2190-11-28**] 12:00 PM
   Levofloxacin - [**2190-11-28**] 10:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2190-11-29**] 06:19 AM
   Vancomycin - [**2190-11-29**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Fentanyl - [**2190-11-30**] 08:30 PM
   Midazolam (Versed) - [**2190-11-30**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2190-12-1**] 12:44 AM
   Pantoprazole (Protonix) - [**2190-12-1**] 12:45 AM
   Furosemide (Lasix) - [**2190-12-1**] 06:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-1**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37.4
C (99.4
   HR: 94 (89 - 112) bpm
   BP: 120/59(82) {79/48(66) - 154/72(103)} mmHg
   RR: 22 (16 - 30) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 80.8 kg (admission): 60 kg
    CVP: 8 (8 - 12)mmHg
   Total In:
                                                                  2,063 mL
                                                                    911 mL
   PO:
   TF:
                                                                  1,324 mL
                                                                    394 mL
   IVF:
                                                                    614 mL
                                                                    107 mL
   Blood products:
   Total out:
                                                                  2,990 mL
                                                                    800 mL
   Urine:
                                                                  2,990 mL
                                                                    400 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -927 mL
                                                                    111 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 441 (430 - 560) mL
   PS : 8 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 60
   PIP: 14 cmH2O
   SpO2: 96%
   ABG: 7.42/52/107/31/7
   Ve: 9.5 L/min
   PaO2 / FiO2: 268
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   342 K/uL
   9.2 g/dL
   263 mg/dL
   1.3 mg/dL
   31 mEq/L
   4.1 mEq/L
   31 mg/dL
   105 mEq/L
   145 mEq/L
   26.9 %
   9.5 K/uL
        [image002.jpg]
                            [**2190-11-28**]  12:03 PM
                            [**2190-11-28**]  02:25 PM
                            [**2190-11-29**]  03:36 AM
                            [**2190-11-29**]  04:38 AM
                            [**2190-11-29**]  07:39 PM
                            [**2190-11-30**]  03:42 AM
                            [**2190-11-30**]  06:13 AM
                            [**2190-11-30**]  03:26 PM
                            [**2190-11-30**]  05:30 PM
                            [**2190-12-1**]  02:00 AM
   WBC
   7.3
   6.9
   9.8
   9.5
   Hct
   25.3
   25.4
   28.8
   26.9
   Plt
   [**Telephone/Fax (3) 8961**]42
   Cr
   1.3
   1.3
   1.3
   1.3
   1.3
   TCO2
   28
   29
   31
   35
   Glucose
   187
   215
   220
   267
   263
   Other labs: PT / PTT / INR:12.6/26.2/1.1, CK / CKMB /
   Troponin-T:/4/0.02, ALT / AST:35/54, Alk Phos / T Bili:132/0.2, Amylase
   / Lipase:/43, Differential-Neuts:79.7 %, Band:12.0 %, Lymph:11.7 %,
   Mono:6.0 %, Eos:2.4 %, Lactic Acid:1.0 mmol/L, LDH:238 IU/L, Ca++:8.6
   mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Imaging: RUQ U/S - normal with mild CBD dilatation with no intrahepatic
   dilatation. No stones or sludge
   CXR
   Microbiology: Blood and Urine Cx negative to date
   Sputum with Yeast on GS
   C. Diff pending
   Assessment and Plan
   76 yo male who presents hypoxic in the setting of coffee ground emesis
   and URI with progressive declining respiratory status and hypotension.
   Now with persistent fevers and altered mental status
   # Persistent fevers: The patient no longer has sepsis physiology, but
   continues to be febrile when he is not receiving Tylenol.  Cooling
   blanket in place, yesterday we stopped abx as there was no source
   identified and his initial leukocytosis had resolved.  He does have a
   worsening retrocardiac opacity.  Lipase normal, suggesting this is not
   pancreatitis (pt has history of pancreatic ca), RUQ negative.  CXR
   unchanged this morning and all cultures negative to date.  Other
   possibilities include drug fever, malignancy or rheumatologic source.
   - Repeat cultures off abx pending
   - Cannot check HIV status at the moment as the patient does not have a
   designated health care proxy.
   - Had a positive RF in [**Name (NI) 319**], unclear why tested.  Touch base with
   PCP, [**Last Name (NamePattern4) **]. [**Last Name (STitle) 8947**].
   - Trend fever curve.
   # Respiratory failure: Tired on PSV yesterdayl.  Likely viral PNA vs
   aspiration pneumonitis.  Fluid overload also likely contributing though
   echo reveals hyperdynamic EF.  We will continue to diurese
   aggressively.
   - SBT today
   - Responding well to diuresis without rise in Cr. Continue today with
   Lasix boluses of 40mg IV x2, was net negative 1L, goal negative 1.5 to
   2L.
   #Atrial fibrillation w RVR
 Had one episode of tachycardia w/ HRs in
   160s 2d due to Afib w/ RVR.  No prior hx of afib.  Likely precipitants
   include fluid overload and HTN.  Now rate controlled with diltiazem.
   Will likely require anti-coagulation given high CHADS score, holding
   off for now given recent GI bleed.
   - Continue diazepam TID
   # HTN: Hypertensive stopped yesterday.  Home meds: Alpha-Methyldopa
   500mg tabs [**Hospital1 **], Cozaar 100mg daily, HCTZ 25mg daily will restart when
   able to take PO.
   -  on Methyldopa and Diltiazam
   - home blood pressure meds initially held for hypotension.  Holding
   Cozaar because of renal impairment and HCTZ while he is being
   diuresed.  If he is hypertensive again we will titrate up his
   diltiazem.
   # Constipation: He has not had a bowel movement since his arrival,
   though he has been getting lactulose and dulcolax.  Today we will try a
   suppository and if that does not work, give a soap suds enema. Large BM
   starting at 9pm.  Trace guaiac positive.
   - C.diff sent
   # Coffee ground emesis: Upper endoscopy and NG lavage negative.
   Hematocrit now stable.  Will hold off on further work-up at this time.
   - Continue IV PPI, can transfer to PO when able.
   - stools trace guaiac positive
   - Maintain active type and screen
   # Chronic renal insufficiency: Cr at baseline of 1.2-1.4 with fluid
   re-hydration.
   -Trend creatinines daily
   -Avoid hypoperfusion, nephrotoxic agents
   # DMII: ISS and QID FS.  Yesterday sugars were stably elevated to 200s.
   - Give half of insulin as QHS lantus.
   - Metformin held in setting of increased Cr and requiring scans.
   # FEN: IV fluid prn,
   - on  TF
   - monitor lytes
   # PPX:
   - IV PPI
   - bowel regimen (colace, senna, lactulose PRN)
   - pneumoboots and Heparin SC.
   # ACCESS: L IJ, A line, PIV
   # CODE STATUS: full
   # DISPO: ICU
   # EMERGENCY CONTACT:  [**First Name8 (NamePattern2) 1298**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 8833**] , Khaym [**Doctor Last Name 8834**]
   [**Telephone/Fax (1) 8835**] , Pail Dushan [**Telephone/Fax (1) 8836**]
   -  Does not have health care proxy->spoke with friend [**Name (NI) **], and nearest
   next of [**Doctor First Name **] is niece [**Name (NI) 1298**] who lives in [**Location 4032**], [**State 254**], who has served as
   HCP on past admissions.  She may be coming down soon, we did not
   contact her yet.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2190-12-1**] 12:05 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2190-11-25**] 06:37 PM
   Multi Lumen - [**2190-11-25**] 06:38 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-12-02 07:26:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - CT neck (prelim report): Small, 9-mm rim-enhancing fluid collection L
   tonsillar pillar - liquefactive necrosis/early abscess formation, fluid
   opacification all paranasal sinuses, L>R - concurrent infection cannot
   be excluded
   - CT chest (prelim report): Nonspecific appearance of left L>R basilar
   consolidations - aspiration or atelectasis, improving as compared to
   prior studies
   - Not sleeping well --> trazadone
   - Started on Augmentin, nasal spray
   - ENT c/s in am for ?PTA
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2190-11-29**] 08:00 AM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-12-1**] 08:30 AM
   Midazolam (Versed) - [**2190-12-1**] 08:00 PM
   Fentanyl - [**2190-12-2**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-2**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38
C (100.4
   Tcurrent: 37.2
C (98.9
   HR: 83 (82 - 106) bpm
   BP: 115/58(79) {84/53(71) - 165/80(113)} mmHg
   RR: 12 (10 - 26) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.1 kg (admission): 60 kg
    CVP: 9 (4 - 10)mmHg
   Total In:
                                                                  2,919 mL
                                                                    867 mL
   PO:
   TF:
                                                                  1,212 mL
                                                                    393 mL
   IVF:
                                                                    837 mL
                                                                    154 mL
   Blood products:
   Total out:
                                                                  2,510 mL
                                                                    880 mL
   Urine:
                                                                  2,110 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    409 mL
                                                                    -13 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 462 (413 - 534) mL
   PS : 12 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 58
   PIP: 17 cmH2O
   SpO2: 97%
   ABG: 7.46/50/101/35/9
   NIF: -15 cmH2O
   Ve: 9.6 L/min
   PaO2 / FiO2: 253
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   357 K/uL
   8.6 g/dL
   188 mg/dL
   1.3 mg/dL
   35 mEq/L
   4.1 mEq/L
   35 mg/dL
   106 mEq/L
   147 mEq/L
   24.7 %
   9.7 K/uL
        [image002.jpg]
                            [**2190-11-29**]  03:36 AM
                            [**2190-11-29**]  04:38 AM
                            [**2190-11-29**]  07:39 PM
                            [**2190-11-30**]  03:42 AM
                            [**2190-11-30**]  06:13 AM
                            [**2190-11-30**]  03:26 PM
                            [**2190-11-30**]  05:30 PM
                            [**2190-12-1**]  02:00 AM
                            [**2190-12-1**]  09:56 AM
                            [**2190-12-2**]  03:09 AM
   WBC
   6.9
   9.8
   9.5
   9.7
   Hct
   25.4
   28.8
   26.9
   24.7
   Plt
   237
   303
   342
   357
   Cr
   1.3
   1.3
   1.3
   1.3
   1.3
   1.3
   TCO2
   29
   31
   35
   37
   Glucose
   187
   215
   220
   [**Telephone/Fax (3) 8974**]
   Other labs: PT / PTT / INR:12.6/26.2/1.1, CK / CKMB /
   Troponin-T:/4/0.02, ALT / AST:35/54, Alk Phos / T Bili:132/0.2, Amylase
   / Lipase:/43, Differential-Neuts:79.7 %, Band:12.0 %, Lymph:11.7 %,
   Mono:6.0 %, Eos:2.4 %, Lactic Acid:1.0 mmol/L, LDH:238 IU/L, Ca++:8.7
   mg/dL, Mg++:2.2 mg/dL, PO4:3.0 mg/dL
   Imaging: - CT neck (prelim report): Small, 9-mm rim-enhancing fluid
   collection L tonsillar pillar - liquefactive necrosis/early abscess
   formation, fluid opacification all paranasal sinuses, L>R - concurrent
   infection cannot be excluded
   - CT chest (prelim report): Nonspecific appearance of left L>R basilar
   consolidations - aspiration or atelectasis, improving as compared to
   prior studies
   Microbiology: Blood and Urine Cx pending
   Sputum GS negative, cultures pending
   C. Diff negative
   Assessment and Plan
   76 yo male who presents hypoxic in the setting of coffee ground emesis
   and URI with progressive declining respiratory status and hypotension.
   Now with persistent fevers and altered mental status
   # Persistent fevers: CT concerning for PTA and sinusitis.  Augmentin
   and nasal sprays started.  Low grade fevers off Tylenol, but restarted
   given pain.  CT chest without evidence of PNA.  The patient no longer
   has sepsis physiology.  All cultures negative to date.  Other
   possibilities include drug fever, all unnecessary meds stopped.
   - ENT c/s
   - Repeat cultures off abx pending
   - Continue augmentin for 10d
   # Respiratory failure: Tired on PSV yesterday, seems to tire easily.
   NIF -15 suggesting generalized weakness in setting of infection.  CT
   cocnerning for atelectasis and chronic aspiaration, however PNA
   unlikely.
   - treat underlying infection
   - wean vent as tolerated
   # Weakness: Respiratory weakness as demonstrated by NIF.  Also seems to
   have general peripheral weakness, greater than would be expected.  H/o
   dysphagia prior to hospitalization.  Concern for neurologic source for
   weakness.
   - Attempt to get further history as to function prior to
   hospitalization
   - Consider neuromuscular consult
   #Atrial fibrillation w RVR
 Had one episode with likely precipitants
   include fluid overload and HTN.  No prior hx of afib.  Now rate
   controlled with diltiazem.  Will likely require anti-coagulation given
   high CHADS score, holding off for now given recent GI bleed.
   - Continue diazepam TID
   # HTN: BP stable.  On Methyldopa and Diltiazam.
   - Hold Cozaar and HCTZ
   - continue Dilt
   # Coffee ground emesis: Upper endoscopy and NG lavage negative, trace
   guiac positive.  Hematocrit now stable.  Needs colonoscopy when stable.
   - Re start PPI
   - Maintain active type and screen
   # Chronic renal insufficiency: Cr at baseline of 1.2-1.4 with fluid
   re-hydration.
   -Trend creatinines daily
   -Avoid hypoperfusion, nephrotoxic agents
   # DMII: ISS and QID FS.  ISS adjusted yesterday, now BS in low 200s.
   - Metformin held in setting of increased Cr and requiring scans.
   # FEN:
   - on  TF
   - monitor lytes
   # PPX:
   - IV PPI
   - bowel regimen (colace, senna, lactulose PRN)
   - pneumoboots and Heparin SC.
   # ACCESS: L IJ, A line, PIV
   # CODE STATUS: full
   # DISPO: ICU
   # EMERGENCY CONTACT:  [**First Name8 (NamePattern2) 1298**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 8833**] , Khaym [**Doctor Last Name 8834**]
   [**Telephone/Fax (1) 8835**] , Pail Dushan [**Telephone/Fax (1) 8836**]
   -  Does not have health care proxy->spoke with friend [**Name (NI) **], and nearest
   next of [**Doctor First Name **] is niece [**Name (NI) 1298**] who lives in [**Location 4032**], [**State 254**], who has served as
   HCP on past admissions.  She may be coming down soon, we did not
   contact her yet.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2190-12-1**] 08:14 PM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2190-11-25**] 06:37 PM
   Multi Lumen - [**2190-11-25**] 06:38 PM
   20 Gauge - [**2190-12-1**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-12-03 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   --ENT came by, wasn't too impressed. On PE, felt that it wasn't very
   erythematous, not angry looking, didn't appear to be an abscess. They
   performed 3 point fine needle aspirate but didn't get anything.
   Recommended continued ABx, saline washes q hour, nasal sprays.
   --Blood culture positive 1 out of 2 with GPC, started on vanc, received
   2 doses of Unasyn
   --Fever
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2190-12-2**] 04:32 PM
   Vancomycin - [**2190-12-2**] 06:18 PM
   Infusions:
   Midazolam (Versed) - 1.5 mg/hour
   Fentanyl - 100 mcg/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2190-12-2**] 09:52 AM
   Fentanyl - [**2190-12-2**] 04:30 PM
   Midazolam (Versed) - [**2190-12-2**] 04:30 PM
   Heparin Sodium (Prophylaxis) - [**2190-12-3**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-3**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.5
C (101.3
   Tcurrent: 38.1
C (100.5
   HR: 83 (74 - 92) bpm
   BP: 123/52(69) {95/50(68) - 142/92(97)} mmHg
   RR: 20 (11 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.1 kg (admission): 60 kg
    CVP: 4 (4 - 12)mmHg
   Total In:
                                                                  3,426 mL
                                                                    665 mL
   PO:
   TF:
                                                                  1,320 mL
                                                                    385 mL
   IVF:
                                                                  1,416 mL
                                                                    151 mL
   Blood products:
   Total out:
                                                                  1,665 mL
                                                                    280 mL
   Urine:
                                                                  1,265 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,761 mL
                                                                    385 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 578 (578 - 639) mL
   PS : 12 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 83
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   SpO2: 96%
   ABG: 7.47/46/128/32/9
   Ve: 8.6 L/min
   PaO2 / FiO2: 320
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   411 K/uL
   8.3 g/dL
   197 mg/dL
   1.5 mg/dL
   32 mEq/L
   4.3 mEq/L
   41 mg/dL
   106 mEq/L
   145 mEq/L
   25.4 %
   10.7 K/uL
        [image002.jpg]
                            [**2190-11-30**]  03:42 AM
                            [**2190-11-30**]  06:13 AM
                            [**2190-11-30**]  03:26 PM
                            [**2190-11-30**]  05:30 PM
                            [**2190-12-1**]  02:00 AM
                            [**2190-12-1**]  09:56 AM
                            [**2190-12-2**]  03:09 AM
                            [**2190-12-2**]  07:42 PM
                            [**2190-12-3**]  04:38 AM
                            [**2190-12-3**]  05:04 AM
   WBC
   9.8
   9.5
   9.7
   10.7
   Hct
   28.8
   26.9
   24.7
   25.4
   Plt
   [**Telephone/Fax (3) 9003**]11
   Cr
   1.3
   1.3
   1.3
   1.3
   1.5
   TCO2
   31
   35
   37
   36
   34
   Glucose
   220
   267
   263
   188
   197
   Other labs: PT / PTT / INR:12.6/26.2/1.1, CK / CKMB /
   Troponin-T:/4/0.02, ALT / AST:35/54, Alk Phos / T Bili:132/0.2, Amylase
   / Lipase:/43, Differential-Neuts:79.7 %, Band:12.0 %, Lymph:11.7 %,
   Mono:6.0 %, Eos:2.4 %, Lactic Acid:1.0 mmol/L, LDH:238 IU/L, Ca++:8.7
   mg/dL, Mg++:2.2 mg/dL, PO4:3.3 mg/dL
   Imaging: CXR
   Microbiology: Blood Cx 1 out of 2: GRAM POSITIVE COCCI IN PAIRS AND
   CLUSTERS.
   Urine, C. diff, Sputum negative
   Assessment and Plan
   76 yo male who presents hypoxic in the setting of coffee ground emesis
   and URI with progressive declining respiratory status and hypotension.
   Now with persistent fevers and altered mental status.
   # Persistent fevers: CT concerning for PTA and sinusitis.  ENT
   evaluated, small abscess, attempted drainage, none aspirated.
   Augmentin and nasal sprays.  Blood culture [**2-5**] postitive for GPC in
   pairs and clusters.  Concern for bacteremia given fevers however also
   could be contamination.  Low grade fevers off Tylenol, but restarted
   given pain.  CT chest without evidence of PNA.  The patient no longer
   has sepsis physiology.   Other possibilities include drug fever, all
   unnecessary meds stopped.
   - repeat cultures x2
   - pull line, replace with PICC
   - f/u ENT recs
   - Repeat cultures off abx pending
   - Continue augmentin for 10d
    # Respiratory failure: Tired on PSV yesterday, seems to tire easily.
   NIF -15 suggesting generalized weakness in setting of infection.  CT
   cocnerning for atelectasis and chronic aspiaration, however PNA
   unlikely.
   - treat underlying infection
   - wean vent as tolerated
   # Weakness: Respiratory weakness as demonstrated by NIF.  Also seems to
   have general peripheral weakness, greater than would be expected.  H/o
   dysphagia prior to hospitalization.  Concern for neurologic source for
   weakness.
   - Attempt to get further history as to function prior to
   hospitalization
   - Consider neuromuscular consult
   #Atrial fibrillation w RVR
 Had one episode with likely precipitants
   include fluid overload and HTN.  No prior hx of afib.  Now rate
   controlled with diltiazem.  Will likely require anti-coagulation given
   high CHADS score, holding off for now given recent GI bleed.
   - Continue diazepam TID
   # HTN: BP stable.  On Methyldopa and Diltiazam.
   - Hold Cozaar and HCTZ
   - continue Dilt
   # Coffee ground emesis: Upper endoscopy and NG lavage negative, trace
   guiac positive.  Hematocrit now stable.  Needs colonoscopy when stable.
   - PO PPI
   - Maintain active type and screen
   # Chronic renal insufficiency: Cr at baseline of 1.2-1.4 with fluid
   re-hydration.
   -Trend creatinines daily
   -Avoid hypoperfusion, nephrotoxic agents
   # DMII: ISS and QID FS.  ISS adjusted yesterday, now BS in low 200s.
   - Metformin held in setting of increased Cr and requiring scans.
   # FEN:
   - on  TF
   - monitor lytes
   # PPX:
   - PO PPI
   - bowel regimen (colace, senna, lactulose PRN)
   - pneumoboots and Heparin SC.
   # ACCESS: L IJ, A line, PIV
   # CODE STATUS: full
   # DISPO: ICU
   # EMERGENCY CONTACT:  [**First Name8 (NamePattern2) 1298**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 8833**] , Khaym [**Doctor Last Name 8834**]
   [**Telephone/Fax (1) 8835**] , Pail Dushan [**Telephone/Fax (1) 8836**]
   -  Does not have health care proxy->spoke with friend [**Name (NI) **], and nearest
   next of [**Doctor First Name **] is niece [**Name (NI) 1298**] who lives in [**Location 4032**], [**State 254**], who has served as
   HCP on past admissions.  She may be coming down soon, we did not
   contact her yet.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2190-12-3**] 03:55 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2190-11-25**] 06:37 PM
   Multi Lumen - [**2190-11-25**] 06:38 PM
   20 Gauge - [**2190-12-1**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-12-04 07:52:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Neuro c/s - exam shows diffuse weakness, left-sided ptosis and
   right-sided up going toe.  Likely diffuse myopathy.  Recommend MRI/MRA
   to rule-out stroke.
   - grew gram +ve cocci from 2/2 cultures on [**12-1**].  Started on vanco 1gm
   Q12.  Further speciation pending.  Central pulled and replaced,
   catheter tip sent for culture.
   - Tolearted PSV 5/5 all day with stable ABG
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2190-12-2**] 04:32 PM
   Vancomycin - [**2190-12-3**] 08:54 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Fentanyl - 30 mcg/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-12-3**] 03:54 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-4**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.7
C (99.9
   HR: 88 (74 - 109) bpm
   BP: 136/67(94) {83/51(62) - 152/6,861(133)} mmHg
   RR: 23 (13 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.1 kg (admission): 60 kg
    CVP: 8 (5 - 8)mmHg
   Total In:
                                                                  2,669 mL
                                                                    707 mL
   PO:
   TF:
                                                                  1,324 mL
                                                                    404 mL
   IVF:
                                                                    614 mL
                                                                    103 mL
   Blood products:
   Total out:
                                                                  1,075 mL
                                                                    600 mL
   Urine:
                                                                  1,075 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,594 mL
                                                                    107 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 519 (455 - 657) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 43
   PIP: 10 cmH2O
   Plateau: 16 cmH2O
   SpO2: 96%
   ABG: 7.42/53/116/34/8
   NIF: -17 cmH2O
   Ve: 9.3 L/min
   PaO2 / FiO2: 290
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   448 K/uL
   8.8 g/dL
   172 mg/dL
   1.3 mg/dL
   34 mEq/L
   4.5 mEq/L
   39 mg/dL
   110 mEq/L
   148 mEq/L
   25.3 %
   11.0 K/uL
        [image002.jpg]
                            [**2190-11-30**]  05:30 PM
                            [**2190-12-1**]  02:00 AM
                            [**2190-12-1**]  09:56 AM
                            [**2190-12-2**]  03:09 AM
                            [**2190-12-2**]  07:42 PM
                            [**2190-12-3**]  04:38 AM
                            [**2190-12-3**]  05:04 AM
                            [**2190-12-3**]  03:54 PM
                            [**2190-12-4**]  03:31 AM
                            [**2190-12-4**]  03:51 AM
   WBC
   9.5
   9.7
   10.7
   11.0
   Hct
   26.9
   24.7
   25.4
   25.3
   Plt
   342
   357
   411
   448
   Cr
   1.3
   1.3
   1.5
   1.3
   TCO2
   35
   37
   36
   34
   37
   36
   Glucose
   263
   188
   197
   172
   Other labs: PT / PTT / INR:12.6/26.2/1.1, CK / CKMB /
   Troponin-T:/4/0.02, ALT / AST:35/54, Alk Phos / T Bili:132/0.2, Amylase
   / Lipase:/43, Differential-Neuts:79.7 %, Band:12.0 %, Lymph:11.7 %,
   Mono:6.0 %, Eos:2.4 %, Lactic Acid:0.5 mmol/L, LDH:238 IU/L, Ca++:8.5
   mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Microbiology: Blood Culture: [**3-8**] GPC in pairs and clusters.  [**2-5**] coag
   negative staph.
   Catheter tip pending
   Urine culture and CMV negative
   Assessment and Plan
   76 yo male who presents hypoxic in the setting of coffee ground emesis
   and URI with progressive declining respiratory status and hypotension.
   Now with persistent fevers and altered mental status.
   # Persistent fevers: Likely line infection with 2/2 blood cultures for
   GPC in pairs and clusters, being treated with vancomycin day 3,
   surviellence cultures pending.  Central  line removed.  Also CT
   concerning for sinusitis being treated with Augmentin and nasal
   sprays.  ENT evaluated for PTA, small abscess, attempted drainage, none
   aspirated.  Low grade fevers on Tylenol.  CT chest without evidence of
   PNA.
   - daily surviellence cultures
   - line holiday, will need PICC
   - continue vanc and augmentin
   # Weakness: Generalized weakness, evaluated by neuro who felt likely
   due to myopathy.  Weakness improved somewhat when sedation weaned off.
   Also respiratory weakness as demonstrated by NIF, today -17.  H/o
   dysphagia prior to hospitalization.
   - Wean sedation and further eval weakness
   - If no improvement over weekend, neuro to evaluate for neuromuscular
   source
   # Respiratory failure: On [**6-8**] PSV all day and tolerated well.  Seems to
   be related to weakness as the CT is cocnerning for atelectasis and
   chronic aspiaration, however PNA unlikely.
   - wean vent as tolerated, SBT
   # Hypernatremia: Sodium elevated to 148
   - increase free water to 150cc q4
   #Atrial fibrillation w RVR
 Had one episode with likely precipitants
   include fluid overload and HTN.  No prior hx of afib.  Now rate
   controlled with diltiazem.  Will likely require anti-coagulation given
   high CHADS score, holding off for now given recent GI bleed.
   - Continue diazepam TID
   # HTN: BP stable.  On Methyldopa and Diltiazam.
   - Hold Cozaar and HCTZ
   - continue Dilt
   # Coffee ground emesis: Upper endoscopy and NG lavage negative, trace
   guiac positive.  Hematocrit now stable.  Needs colonoscopy when stable.
   - PO PPI
   - Maintain active type and screen
   # Chronic renal insufficiency: Cr at baseline of 1.2-1.4 with fluid
   re-hydration.
   -Trend creatinines daily
   -Avoid hypoperfusion, nephrotoxic agents
   # DMII: ISS and QID FS.  ISS adjusted yesterday, now BS in low 200s.
   - Metformin held in setting of increased Cr and requiring scans.
   # FEN:
   - on  TF
   - monitor lytes
   # PPX:
   - PO PPI
   - bowel regimen (colace, senna, lactulose PRN)
   - pneumoboots and Heparin SC.
   # ACCESS: L IJ, A line, PIV
   # CODE STATUS: full
   # DISPO: ICU
   # EMERGENCY CONTACT:  [**First Name8 (NamePattern2) 1298**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 8833**] , Khaym [**Doctor Last Name 8834**]
   [**Telephone/Fax (1) 8835**] , Pail Dushan [**Telephone/Fax (1) 8836**]
   -  Does not have health care proxy->spoke with friend [**Name (NI) **], and nearest
   next of [**Doctor First Name **] is niece [**Name (NI) 1298**] who lives in [**Location 4032**], [**State 254**], who has served as
   HCP on past admissions.  She may be coming down soon, we did not
   contact her yet.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2190-12-3**] 10:01 PM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2190-11-25**] 06:37 PM
   20 Gauge - [**2190-12-3**] 11:37 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-12-05 08:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2190-12-4**] 03:35 PM
   - Neuro c/s - exam shows diffuse weakness, left-sided ptosis and
   right-sided up going toe.  Likely diffuse myopathy.  Recommend MRI/MRA
   to rule-out stroke.
   - grew gram +ve cocci from 2/2 cultures on [**12-1**].  Started on vanco 1gm
   Q12.  Further speciation pending.  Central pulled and replaced,
   catheter tip sent for culture.
   - Tolearted PSV 5/5 all day with stable ABG
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2190-12-2**] 04:32 PM
   Vancomycin - [**2190-12-4**] 07:48 AM
   Infusions:
   Other ICU medications:
   Midazolam (Versed) - [**2190-12-5**] 03:00 AM
   Heparin Sodium (Prophylaxis) - [**2190-12-5**] 07:43 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-5**] 08:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.5
C (99.5
   HR: 90 (80 - 106) bpm
   BP: 153/74(105) {112/63(87) - 193/128(199)} mmHg
   RR: 26 (17 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.1 kg (admission): 60 kg
             Total In:
                                                                  2,594 mL
                                                                  1,059 mL
   PO:
             TF:
                                                                  1,327 mL
                                                                    445 mL
   IVF:
                                                                    508 mL
                                                                     84 mL
   Blood products:
   Total out:
                                                                  2,310 mL
                                                                  1,070 mL
   Urine:
                                                                  2,310 mL
                                                                  1,070 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    284 mL
                                                                    -11 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 393 (384 - 426) mL
   PS : 5 cmH2O
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 85
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.44/52/105/34/9
   NIF: -18 cmH2O
   Ve: 10.6 L/min
   PaO2 / FiO2: 263
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   461 K/uL
   8.2 g/dL
   177 mg/dL
   1.1 mg/dL
   34 mEq/L
   4.3 mEq/L
   34 mg/dL
   110 mEq/L
   149 mEq/L
   24.4 %
   8.1 K/uL
        [image002.jpg]
                            [**2190-12-1**]  09:56 AM
                            [**2190-12-2**]  03:09 AM
                            [**2190-12-2**]  07:42 PM
                            [**2190-12-3**]  04:38 AM
                            [**2190-12-3**]  05:04 AM
                            [**2190-12-3**]  03:54 PM
                            [**2190-12-4**]  03:31 AM
                            [**2190-12-4**]  03:51 AM
                            [**2190-12-4**]  11:11 AM
                             [**2190-12-5**]  01:06 AM
   WBC
   9.7
   10.7
   11.0
   8.1
   Hct
   24.7
   25.4
   25.3
   24.4
   Plt
   357
   411
   448
   461
   Cr
   1.3
   1.5
   1.3
   1.1
   TCO2
   37
   36
   34
   37
   36
   36
   Glucose
   188
   197
   172
   177
   Other labs: PT / PTT / INR:13.1/32.4/1.1  (today), CK / CKMB /
   Troponin-T:/4/0.02, ALT / AST:35/54, Alk Phos / T Bili:132/0.2, Amylase
   / Lipase:/43, Differential-Neuts:79.7 %, Band:12.0 %, Lymph:11.7 %,
   Mono:6.0 %, Eos:2.4 %, Lactic Acid:0.7 mmol/L, LDH:238 IU/L, Ca++:8.7
   mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Imaging: [**2190-12-1**] CT chest
   1. Left greater than right bibasilar consolidations, the appearance is
   nonspecific, and can be attributed to atelectasis, aspiration or
   infection,
   however, in review of the time course of multiple prior radiographs,
   the
   findings are in favor of improving atelectasis or aspiration and less
   likely
   infectious pneumonia.
   2. Ground glass opacities in the right upper lobe, the time course
   cannot be
   reliably established rendering these concerning for aspiration or
   pneumonia.
   3. Probably reactive borderline lymph nodes.
   4. Large hiatal hernia.
   CT neck [**2190-12-1**]
   1. The presence of endotracheal and endogastric tubes limits the
   evaluation
   of the retropharyngeal and prevertebral soft tissue spaces; however,
   there is
   no definite effusion, phlegmon or collection at these sites.
   1. Small, 9-mm apparent rim-enhancing fluid collection located roughly
   at the
   level of the left tonsillar pillar, which may represent liquefactive
   necrosis
   and early abscess formation; this should be correlated with findings on
   direct
   physical examination.
   2. Extensive fluid opacification of all visualized paranasal sinuses,
   left
   more than right mastoid air cells and middle ear cavities and the nasal
   cavity
   and nasopharynx, likely related to protracted intubation and supine
   positioning. While concurrent infection cannot be excluded by imaging,
   there
   is no evidence of bone destruction.
   3. Scattered patchy ground glass opacities in a peribronchovascular
   distribution in the lung apices; please see separately-dictated report
   of
   concurrent chest CT for further details.
   4. Grossly patent cervical tracheal airway, with endotracheal tube in
   situ.
   Microbiology: [**2190-12-1**] [**3-8**] GPC's in pairs clusters, coag negative staph
   Assessment and Plan
   76 yo male who presents hypoxic in the setting of coffee ground emesis
   and URI with progressive declining respiratory status and hypotension.
   Now with persistent fevers and altered mental status.
   # Persistent fevers: Likely line infection with 2/2 blood cultures for
   GPC in pairs and clusters, being treated with vancomycin day 4 (started
   [**2190-12-2**]), surviellence cultures pending.  Central  line removed.  Also
   CT concerning for sinusitis being treated with Augmentin and nasal
   sprays.  ENT evaluated for PTA, small abscess, attempted drainage, none
   aspirated.  Low grade fevers on Tylenol --> last fever [**2190-12-3**]
   100.5.  CT chest without evidence of PNA.
   - daily surviellence cultures --> [**12-3**] and [**12-4**] remain negative to
   date
   - line holiday, will need PICC
   - continue vanc for total of 7 days per ID recs
   - restart augmentin, continue fluticasone and saline nasal sprays
   # Weakness: Generalized weakness, evaluated by neuro who felt likely
   due to myopathy.  Weakness improved somewhat when sedation weaned off.
   Also respiratory weakness as demonstrated by NIF, today -18.  H/o
   dysphagia prior to hospitalization.
   - Continue off sedation
   - If no improvement over weekend, neuro to evaluate for neuromuscular
   source --> would retouch base with them Monday to eval for NM disease,
   consider EMG with repetitive stim
   - Head CT to r/o mass lesions
    # Respiratory failure: On [**6-8**] PSV all day and tolerated well.  Seems
   to be related to weakness as the CT is concerning for atelectasis and
   chronic aspiaration, however PNA unlikely. Last ABG 7.44/52/105/36/9
   with normal lactate.
   - wean vent as tolerated --> try to wean pressure support first
   -  SBT
   # Hypernatremia: Sodium elevated to 148 --> 149 today. Free H2O deficit
   calculated is 3L.
   - currently getting free water at 150cc q4hrs
   - follow Na, increase free water if continues to be elevated
   #Atrial fibrillation w RVR
 Had one episode with likely precipitants
   include fluid overload and HTN.  No prior hx of afib.  Now rate
   controlled with diltiazem.  Will likely require anti-coagulation given
   high CHADS score, holding off for now given recent GI bleed.
   - Continue Dilt TID and watch HR/rhythm
   # HTN: BP stable.  On Methyldopa and Diltiazam.
   - Hold Cozaar and HCTZ
   - continue Dilt
    # Coffee ground emesis: Upper endoscopy and NG lavage negative, trace
   guiac positive.  Hematocrit now stable.  Needs colonoscopy when stable.
   - PO PPI
   - Maintain active type and screen  --> current one outdates [**2190-12-6**]
   # Chronic renal insufficiency: Cr at baseline of 1.2-1.4 with fluid
   re-hydration.
   -Trend creatinines daily
   -Avoid hypoperfusion, nephrotoxic agents
   -Will hold on further IVF's for now as Cr at baseline and LOS is up 8L
    # DMII: Glargine 10U qhs,  RISS (4U starting at 131 and increasing 2U
   q40 mg/dL) and QID FS.   ISS adjusted 2 days ago, now BS in low 200s.
   - Metformin held in setting of increased Cr and requiring scans.
   - Will need insulin to be adjusted today
 increase Glargine to 14U qhs
   # FEN:
   - on TF Nutren Pulmonary 55cc/hr
   - monitor lytes
   # PPX:
   - PO PPI
   - bowel regimen (colace, senna, lactulose PRN)
   - pneumoboots and Heparin SC.
   # ACCESS: A line, PIV
   # CODE STATUS: full
   # DISPO: ICU
   # EMERGENCY CONTACT:  [**First Name8 (NamePattern2) 1298**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 8833**] , Khaym [**Doctor Last Name 8834**]
   [**Telephone/Fax (1) 8835**] , Pail Dushan [**Telephone/Fax (1) 8836**]
   -  Does not have health care proxy->spoke with friend [**Name (NI) **], and nearest
   next of [**Doctor First Name **] is niece [**Name (NI) 1298**] who lives in [**Location 4032**], [**State 254**], who has served as
   HCP on past admissions.  She may be coming down soon, we did not
   contact her yet.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2190-12-4**] 04:04 PM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2190-11-25**] 06:37 PM
   20 Gauge - [**2190-12-3**] 11:37 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-12-06 07:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   --CT head done, wet read: 1. No acute intracranial process.
   2. Diffuse the opacification of the paranasal sinuses, which may be
   attributed to intubation. Infection cannot be excluded.
   --Did well on SBT but NIF -17
   --Cath tip negative
   --ID recs treating [**3-8**] surveillance BCx's with Vanc x7d
   --Increased insulin to 14U Glargine hs
   --Will need neuromuscular evaluation before extubation.
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2190-12-5**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-12-6**] 12:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-6**] 07:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.8
C (100.1
   HR: 78 (75 - 102) bpm
   BP: 142/110(119) {105/51(65) - 181/110(119)} mmHg
   RR: 22 (16 - 31) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.1 kg (admission): 60 kg
             Total In:
                                                                  3,445 mL
                                                                  1,023 mL
   PO:
             TF:
                                                                  1,338 mL
                                                                    424 mL
   IVF:
                                                                    557 mL
                                                                     39 mL
   Blood products:
   Total out:
                                                                  1,990 mL
                                                                    800 mL
   Urine:
                                                                  1,990 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,455 mL
                                                                    223 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 283 (283 - 399) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 78
   PIP: 10 cmH2O
   SpO2: 97%
   ABG: ////
   Ve: 6.4 L/min
   Physical Examination
   Gen: Elderly male, intubated, NAD, patient appears more alert, opens
   eyes when speaking to him, nods and points when asked questions  HEENT:
   MMM, sclera anicteric CV: RRR, no M/R/G Lungs: CTA anteriorly [**Last Name (un) **]:
   NABS, soft, ND, NT Extrem: 4/5 strength upper extremities, 3/5 strength
   lower extrem
   Labs / Radiology
   461 K/uL
   8.2 g/dL
   177 mg/dL
   1.1 mg/dL
   34 mEq/L
   4.3 mEq/L
   34 mg/dL
   110 mEq/L
   147 mEq/L
   24.4 %
   8.1 K/uL
        [image002.jpg]
                            [**2190-12-1**]  09:56 AM
                            [**2190-12-2**]  03:09 AM
                            [**2190-12-2**]  07:42 PM
                            [**2190-12-3**]  04:38 AM
                            [**2190-12-3**]  05:04 AM
                            [**2190-12-3**]  03:54 PM
                            [**2190-12-4**]  03:31 AM
                            [**2190-12-4**]  03:51 AM
                            [**2190-12-4**]  11:11 AM
                             [**2190-12-5**]  01:06 AM
   WBC
   9.7
   10.7
   11.0
   8.1
   Hct
   24.7
   25.4
   25.3
   24.4
   Plt
   357
   411
   448
   461
   Cr
   1.3
   1.5
   1.3
   1.1
   TCO2
   37
   36
   34
   37
   36
   36
   Glucose
   188
   197
   172
   177
   Other labs: PT / PTT / INR:13.1/32.4/1.1, CK / CKMB /
   Troponin-T:/4/0.02, ALT / AST:35/54, Alk Phos / T Bili:132/0.2, Amylase
   / Lipase:/43, Differential-Neuts:79.7 %, Band:12.0 %, Lymph:11.7 %,
   Mono:6.0 %, Eos:2.4 %, Lactic Acid:0.7 mmol/L, LDH:238 IU/L, Ca++:8.7
   mg/dL, Mg++:2.1 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
   76 yo male who presents hypoxic in the setting of coffee ground emesis
   and URI with progressive declining respiratory status and hypotension.
   Now with persistent fevers and altered mental status.
   # Persistent fevers: Possible line infection with 2/2 blood cultures
   for GPC in pairs and clusters, being treated with vancomycin day [**6-10**]
   (started [**2190-12-2**]), surveillence cultures pending.  Central  line
   removed, no growth to date from tip.  Also CT concerning for sinusitis
   being treated with Augmentin and nasal sprays.  ENT evaluated for PTA,
   small abscess, attempted drainage, none aspirated.  Low grade fevers on
   Tylenol --> last fever [**2190-12-3**] 100.5; Tmax today 100.1.  CT chest
   without evidence of PNA.
   - daily surviellence cultures --> [**12-3**] and [**12-4**] remain negative to
   date
   - line holiday, will need PICC if continues to require [**Last Name (LF) 114**], [**First Name3 (LF) 116**] hold
   for now given that he only needs 2 more days of [**First Name3 (LF) 114**].
   - continue vanc for total of 7 days per ID recs
   - restart augmentin, continue fluticasone and saline nasal sprays
   # Weakness: Generalized weakness, evaluated by neuro who felt likely
   due to myopathy.  Weakness improved somewhat when sedation weaned off.
   Also respiratory weakness as demonstrated by NIF, today -23.  H/o
   dysphagia prior to hospitalization. Head CT shows no acute intracranial
   process.
   - Continue off sedation
   - Slight improvement over weekend, neuro to evaluate for neuromuscular
   source --> would retouch base with them Monday to eval for NM disease,
   consider EMG with repetitive stim
    # Respiratory failure: On [**6-8**] PSV, tolerating..  Seems to be related
   to weakness as the CT is concerning for atelectasis and chronic
   aspiaration, however PNA unlikely. Did well on last SBT, but given NIF
   -23 will need neuromuscular C/s before extubation.
   - wean vent as tolerated --> try to wean pressure support first
   -  SBT
   -will attempt extubation most likely tomorrow, if fails then trach will
   be necessary
   # Hypernatremia: Sodium elevated to 147. Improving with free water
   250cc q4.
   - currently getting free water at 250cc q4hrs
   #Atrial fibrillation w RVR
 Had one episode with likely precipitants
   include fluid overload and HTN.  No prior hx of afib.  Now rate
   controlled with diltiazem.  Will likely require anti-coagulation given
   high CHADS score, holding off for now given recent GI bleed.
   - Continue Dilt TID and watch HR/rhythm
   # HTN: BP stable.  On Methyldopa and Diltiazam.
   - Hold Cozaar and HCTZ
   - continue Dilt
    # Coffee ground emesis: Upper endoscopy and NG lavage negative, trace
   guiac positive.  Hematocrit now stable.  Needs colonoscopy when stable.
   - PO PPI
   - Maintain active type and screen  --> current one outdates [**2190-12-6**]
   # Chronic renal insufficiency: Cr at baseline of 1.2-1.4 with fluid
   re-hydration.
   -Trend creatinines daily
   -Avoid hypoperfusion, nephrotoxic agents
   -Will hold on further IVF's for now as Cr at baseline and LOS is up 8L
    # DMII: Glargine 14U qhs. BS in 200s.
   - Metformin held in setting of increased Cr and requiring scans.
   - Glargine
   -increase glargine as needed.
   # FEN:
   - on TF Nutren Pulmonary 55cc/hr
   - monitor lytes
   # PPX:
   - PO PPI
   - bowel regimen (colace, senna, lactulose PRN)
   - pneumoboots and Heparin SC.
   # ACCESS: Aline, PIV
   # CODE STATUS: full
   # DISPO: ICU
   # EMERGENCY CONTACT:  [**First Name8 (NamePattern2) 1298**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 8833**] , Khaym [**Doctor Last Name 8834**]
   [**Telephone/Fax (1) 8835**] , Pail Dushan [**Telephone/Fax (1) 8836**]
   -  Does not have health care proxy->spoke with friend [**Name (NI) **], and nearest
   next of [**Doctor First Name **] is niece [**Name (NI) 1298**] who lives in [**Location 4032**], [**State 254**], who has served as
   HCP on past admissions.  She may be coming down soon, we did not
   contact her yet.
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2190-12-6**] 03:51 AM 55 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-12-3**] 11:37 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-12-07 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   --Neuro recs: continue supportive care, he appears to be improving.
   Would recommend MRI.  Will reassess need for neuromuscular consult
   tomorrow.
   --Made NPO at midnight for possible extubation in AM.
   --PCP [**Name Initial (PRE) **].
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2190-12-6**] 08:00 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-12-6**] 05:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-7**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.4
C (99.4
   HR: 74 (66 - 86) bpm
   BP: 153/67(89) {94/29(53) - 153/72(89)} mmHg
   RR: 24 (18 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.1 kg (admission): 60 kg
             Total In:
                                                                  3,214 mL
                                                                     96 mL
   PO:
             TF:
                                                                  1,324 mL
                                                                      3 mL
   IVF:
                                                                    520 mL
                                                                     33 mL
   Blood products:
   Total out:
                                                                  1,690 mL
                                                                    245 mL
   Urine:
                                                                  1,690 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,524 mL
                                                                   -149 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 352 (283 - 386) mL
   PS : 5 cmH2O
   RR (Spontaneous): 24
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 77
   PIP: 11 cmH2O
   SpO2: 100%
   ABG: ///31/
   NIF: -23 cmH2O
   Ve: 9 L/min
   Physical Examination
   Gen: Elderly male, intubated, NAD; interactive, follows commands,
   responding to questions HEENT: MMM, sclera anicteric
   CV: RRR, no M/R/G Lungs: CTA anteriorly, breath sounds slightly
   decreased at bases [**Last Name (un) **]: NABS, soft, ND, NT Extrem: 5/5 strength in all
   extremities, using remote and call button, 1+ pitting edema b/l
   Labs / Radiology
   548 K/uL
   9.0 g/dL
   90 mg/dL
   0.9 mg/dL
   31 mEq/L
   3.9 mEq/L
   28 mg/dL
   106 mEq/L
   145 mEq/L
   26.6 %
   9.9 K/uL
        [image002.jpg]
                            [**2190-12-2**]  07:42 PM
                            [**2190-12-3**]  04:38 AM
                            [**2190-12-3**]  05:04 AM
                            [**2190-12-3**]  03:54 PM
                            [**2190-12-4**]  03:31 AM
                            [**2190-12-4**]  03:51 AM
                            [**2190-12-4**]  11:11 AM
                             [**2190-12-5**]  01:06 AM
                             [**2190-12-5**]  11:51 PM
                             [**2190-12-7**]  04:33 AM
   WBC
   10.7
   11.0
   8.1
   9.9
   Hct
   25.4
   25.3
   24.4
   26.6
   Plt
   [**Telephone/Fax (3) 9073**]48
   Cr
   1.5
   1.3
   1.1
   1.0
   0.9
   TCO2
   36
   34
   37
   36
   36
   Glucose
   197
   172
   177
   146
   90
   Other labs: PT / PTT / INR:13.1/32.4/1.1, CK / CKMB /
   Troponin-T:/4/0.02, ALT / AST:35/54, Alk Phos / T Bili:132/0.2, Amylase
   / Lipase:/43, Differential-Neuts:79.7 %, Band:12.0 %, Lymph:11.7 %,
   Mono:6.0 %, Eos:2.4 %, Lactic Acid:0.7 mmol/L, LDH:238 IU/L, Ca++:8.7
   mg/dL, Mg++:2.0 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   77 yo male who presents hypoxic in the setting of coffee ground emesis
   and URI with progressive declining respiratory status and hypotension.
   Now with persistent fevers and altered mental status.
   # Persistent fevers: Possible line infection with 2/2 blood cultures
   for GPC in pairs and clusters, being treated with vancomycin day [**7-11**]
   (started [**2190-12-2**]), surveillence cultures pending.  Central line
   removed, no growth to date from tip.  Also CT concerning for sinusitis
   being treated with Augmentin and nasal sprays.  ENT evaluated for PTA,
   small abscess, attempted drainage, none aspirated.  Low grade fevers on
   Tylenol --> last fever [**2190-12-3**] 100.5.  CT chest without evidence of
   PNA.
   - surviellence cultures --> [**12-3**] and [**12-4**] remain negative to date
   - line holiday, will need PICC if continues to require [**Last Name (LF) 114**], [**First Name3 (LF) 116**] hold
   for now given that he only needs 1 more day of [**First Name3 (LF) 114**].
   - continue vanc for total of 7 days per ID recs
   - Continue augmentin (day [**5-11**]), continue fluticasone and saline nasal
   sprays
   # Weakness: Generalized weakness, evaluated by neuro who felt likely
   due to myopathy. Feel [**Last Name (un) **]-[**Location (un) **] very unlikely.   Weakness improved
   somewhat when sedation weaned off.  Some respiratory weakness as
   demonstrated by NIF, yesterday -23, today -28, so improving.  H/o
   dysphagia prior to hospitalization. Head CT shows no acute intracranial
   process. Spoke with neuro yesterday, will discuss possibility of NM
   consult today to determine prognosis. Recommended considering MRI
   possibly to evaluate for stroke as CT not as sensitive for this.
   - Continue off sedation
   -Improvement in muscle strength. Extubation today given improved NIF,
   good cough
    # Respiratory failure: On [**6-8**] PSV, tolerating.  Seems to be related to
   weakness as the CT is concerning for atelectasis and chronic
   aspiaration, however PNA unlikely. Did well on last SBT.  Per
   respiratory notes from this morning, patient does have very good cough.
   NIF -28.
   - wean vent as tolerated --> try to wean pressure support first
   -  SBT
   -Extubation today
   -if fails extubation will need trach
   # Hypernatremia: Resolved.
   - currently getting free water at 250cc q4hrs
   #Atrial fibrillation w RVR
 Had one episode with likely precipitants
   include fluid overload and HTN.  No prior hx of afib.  Now rate
   controlled with diltiazem.  Will likely require anti-coagulation given
   high CHADS score, holding off for now given recent GI bleed.
   - Continue Dilt TID and watch HR/rhythm
   # HTN: BP stable.  On Methyldopa and Diltiazam.
   - Hold Cozaar and HCTZ
   - continue Dilt
    # Coffee ground emesis: Upper endoscopy and NG lavage negative, trace
   guiaic positive.  Hematocrit now stable.  Needs colonoscopy when
   stable.
   - PO PPI
   - Maintain active type and screen
   # Chronic renal insufficiency: Cr at baseline of 1.2-1.4 with fluid
   re-hydration.
   -Trend creatinines daily
   -Avoid hypoperfusion, nephrotoxic agents
   -Will hold on further IVF's for now as Cr at baseline and LOS is up 15L
    # DMII: Glargine 14U qhs.
   - Metformin held in setting of increased Cr and requiring scans.
   - Continue Glargine
   # FEN: currently NPO for planned extubation this morning.
   -OG tube will be removed when extubated
   -Will evaluate swallowing once extubated
   -If swallowing well, will ADAT; if not, will insert NGT for tube
   feeding
   # PPX:
   - PO PPI
   - bowel regimen (colace, senna, lactulose PRN)
   - pneumoboots and Heparin SC.
   # ACCESS: Aline, PIV
   # CODE STATUS: full
   # DISPO: ICU until extubation successful
   # EMERGENCY CONTACT:  [**First Name8 (NamePattern2) 1298**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 8833**] , Khaym [**Doctor Last Name 8834**]
   [**Telephone/Fax (1) 8835**] , Pail Dushan [**Telephone/Fax (1) 8836**]
   -  Does not have health care proxy->spoke with friend [**Name (NI) **], and nearest
   next of [**Doctor First Name **] is niece [**Name (NI) 1298**] who lives in [**Location 4032**], [**State 254**], who has served as
   HCP on past admissions.  Came down on Saturday ([**12-4**]).
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-12-1**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-12-08 06:51:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Coffee-ground emesis/diffuse weakness
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2190-12-7**] 12:20 PM
   --Extubated!!
   --Difficulty taking pills -> speech/swallow ordered
   --OK for rehab tomorrow?
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2190-12-7**] 08:13 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-12-8**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-8**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 37.3
C (99.2
   HR: 95 (72 - 99) bpm
   BP: 177/83(102) {126/69(86) - 177/148(154)} mmHg
   RR: 22 (18 - 27) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.1 kg (admission): 60 kg
             Total In:
                                                                    823 mL
                                                                    154 mL
   PO:
                                                                    240 mL
                                                                    120 mL
   TF:
                                                                      3 mL
   IVF:
                                                                    520 mL
                                                                     34 mL
   Blood products:
   Total out:
                                                                  2,315 mL
                                                                  1,420 mL
   Urine:
                                                                  1,515 mL
                                                                    770 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                 -1,492 mL
                                                                 -1,266 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 342 (342 - 342) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 60%
   PIP: 10 cmH2O
   SpO2: 93%
   ABG: ///26/
   NIF: -28 cmH2O
   Ve: 7.6 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   636 K/uL
   10.1 g/dL
   115 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.0 mEq/L
   18 mg/dL
   101 mEq/L
   138 mEq/L
   30.3 %
   11.3 K/uL
        [image002.jpg]
                            [**2190-12-3**]  04:38 AM
                            [**2190-12-3**]  05:04 AM
                            [**2190-12-3**]  03:54 PM
                            [**2190-12-4**]  03:31 AM
                            [**2190-12-4**]  03:51 AM
                            [**2190-12-4**]  11:11 AM
                             [**2190-12-5**]  01:06 AM
                             [**2190-12-5**]  11:51 PM
                             [**2190-12-7**]  04:33 AM
                             [**2190-12-8**]  03:59 AM
   WBC
   10.7
   11.0
   8.1
   9.9
   11.3
   Hct
   25.4
   25.3
   24.4
   26.6
   30.3
   Plt
   [**Telephone/Fax (3) 9073**]48
   636
   Cr
   1.5
   1.3
   1.1
   1.0
   0.9
   1.0
   TCO2
   34
   37
   36
   36
   Glucose
   197
   172
   177
   146
   90
   115
   Other labs: PT / PTT / INR:13.1/32.4/1.1, CK / CKMB /
   Troponin-T:/4/0.02, ALT / AST:35/54, Alk Phos / T Bili:132/0.2, Amylase
   / Lipase:/43, Differential-Neuts:79.7 %, Band:12.0 %, Lymph:11.7 %,
   Mono:6.0 %, Eos:2.4 %, Lactic Acid:0.7 mmol/L, LDH:238 IU/L, Ca++:8.8
   mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Microbiology: [**12-3**] and [**12-4**] blood cx: Pending
   [**12-4**]: sputum grew yeast
   Assessment and Plan
 NEUROPATHY, PERIPHERAL
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 HYPERTENSION, BENIGN
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   77 yo male who presents hypoxic in the setting of coffee ground emesis
   and URI with progressive declining respiratory status and hypotension.
   Now with persistent fevers and altered mental status.
   # Persistent fevers: Possible line infection with 2/2 blood cultures
   for GPC in pairs and clusters, being treated with vancomycin day [**7-11**]
   (started [**2190-12-2**]), surveillence cultures pending.  Central line
   removed, no growth to date from tip.  Also CT concerning for sinusitis
   being treated with Augmentin and nasal sprays.  ENT evaluated for PTA,
   small abscess, attempted drainage, none aspirated.  Low grade fevers on
   Tylenol --> last fever [**2190-12-3**] 100.5.  CT chest without evidence of
   PNA.
   - surviellence cultures --> [**12-3**] and [**12-4**] remain negative to date
   - line holiday, will need PICC if continues to require [**Last Name (LF) 114**], [**First Name3 (LF) 116**] hold
   for now given that he only needs 1 more day of [**First Name3 (LF) 114**].
   - continue vanc for total of 7 days per ID recs
   - Continue augmentin (day [**5-11**]), continue fluticasone and saline nasal
   sprays
   # Weakness: Generalized weakness, evaluated by neuro who felt likely
   due to myopathy. Feel [**Last Name (un) **]-[**Location (un) **] very unlikely.   Weakness improved
   somewhat when sedation weaned off.  Some respiratory weakness as
   demonstrated by NIF, yesterday -23, today -28, so improving.  H/o
   dysphagia prior to hospitalization. Head CT shows no acute intracranial
   process. Spoke with neuro yesterday, will discuss possibility of NM
   consult today to determine prognosis. Recommended considering MRI
   possibly to evaluate for stroke as CT not as sensitive for this.
   - Continue off sedation
   -Improvement in muscle strength. Extubation today given improved NIF,
   good cough
    # Respiratory failure: On [**6-8**] PSV, tolerating.  Seems to be related to
   weakness as the CT is concerning for atelectasis and chronic
   aspiaration, however PNA unlikely. Did well on last SBT.  Per
   respiratory notes from this morning, patient does have very good cough.
   NIF -28.
   - wean vent as tolerated --> try to wean pressure support first
   -  SBT
   -Extubation today
   -if fails extubation will need trach
   # Hypernatremia: Resolved.
   - currently getting free water at 250cc q4hrs
   #Atrial fibrillation w RVR
 Had one episode with likely precipitants
   include fluid overload and HTN.  No prior hx of afib.  Now rate
   controlled with diltiazem.  Will likely require anti-coagulation given
   high CHADS score, holding off for now given recent GI bleed.
   - Continue Dilt TID and watch HR/rhythm
   # HTN: BP stable.  On Methyldopa and Diltiazam.
   - Hold Cozaar and HCTZ
   - continue Dilt
    # Coffee ground emesis: Upper endoscopy and NG lavage negative, trace
   guiaic positive.  Hematocrit now stable.  Needs colonoscopy when
   stable.
   - PO PPI
   - Maintain active type and screen
   # Chronic renal insufficiency: Cr at baseline of 1.2-1.4 with fluid
   re-hydration.
   -Trend creatinines daily
   -Avoid hypoperfusion, nephrotoxic agents
   -Will hold on further IVF's for now as Cr at baseline and LOS is up 15L
    # DMII: Glargine 14U qhs.
   - Metformin held in setting of increased Cr and requiring scans.
   - Continue Glargine
   # FEN: currently NPO for planned extubation this morning.
   -OG tube will be removed when extubated
   -Will evaluate swallowing once extubated
   -If swallowing well, will ADAT; if not, will insert NGT for tube
   feeding
   # PPX:
   - PO PPI
   - bowel regimen (colace, senna, lactulose PRN)
   - pneumoboots and Heparin SC.
   # ACCESS: Aline, PIV
   # CODE STATUS: full
   # DISPO: ICU until extubation successful
   # EMERGENCY CONTACT:  [**First Name8 (NamePattern2) 1298**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 8833**] , Khaym [**Doctor Last Name 8834**]
   [**Telephone/Fax (1) 8835**] , Pail Dushan [**Telephone/Fax (1) 8836**]
   -  Does not have health care proxy->spoke with friend [**Name (NI) **], and nearest
   next of [**Doctor First Name **] is niece [**Name (NI) 1298**] who lives in [**Location 4032**], [**State 254**], who has served as
   HCP on past admissions.  Came down on Saturday ([**12-4**]).
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-12-1**] 01:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-12-08 12:35:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Extubated and feeling better.  Strength improving
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2190-12-7**] 12:20 PM
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2190-12-8**] 08:45 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-12-8**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, No(t) Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   Tachycardia, No(t) Orthopnea
   Nutritional Support: No(t) NPO, No(t) Tube feeds, No(t) Parenteral
   nutrition
   Respiratory: Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, No(t) Delirious,
   No(t) Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2190-12-8**] 12:31 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.8
C (98.3
   HR: 105 (80 - 106) bpm
   BP: 172/101(119) {126/69(86) - 177/148(154)} mmHg
   RR: 26 (14 - 27) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78.1 kg (admission): 60 kg
             Total In:
                                                                    823 mL
                                                                    431 mL
   PO:
                                                                    240 mL
                                                                    120 mL
   TF:
                                                                      3 mL
   IVF:
                                                                    520 mL
                                                                    311 mL
   Blood products:
   Total out:
                                                                  2,315 mL
                                                                  1,805 mL
   Urine:
                                                                  1,515 mL
                                                                  1,155 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                 -1,492 mL
                                                                 -1,374 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Overweight /
   Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, No(t) Supraclavicular WNL, No(t) Cervical
   adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: Crackles : bilat, No(t) Bronchial: , No(t) Wheezes : ,
   No(t) Diminished: , No(t) Absent : , No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   636 K/uL
   115 mg/dL
   1.0 mg/dL
   26 mEq/L
   4.0 mEq/L
   18 mg/dL
   101 mEq/L
   138 mEq/L
   30.3 %
   11.3 K/uL
        [image002.jpg]
                            [**2190-12-3**]  04:38 AM
                            [**2190-12-3**]  05:04 AM
                            [**2190-12-3**]  03:54 PM
                            [**2190-12-4**]  03:31 AM
                            [**2190-12-4**]  03:51 AM
                            [**2190-12-4**]  11:11 AM
                             [**2190-12-5**]  01:06 AM
                             [**2190-12-5**]  11:51 PM
                             [**2190-12-7**]  04:33 AM
                             [**2190-12-8**]  03:59 AM
   WBC
   10.7
   11.0
   8.1
   9.9
   11.3
   Hct
   25.4
   25.3
   24.4
   26.6
   30.3
   Plt
   [**Telephone/Fax (3) 9073**]48
   636
   Cr
   1.5
   1.3
   1.1
   1.0
   0.9
   1.0
   TCO2
   34
   37
   36
   36
   Glucose
   197
   172
   177
   146
   90
   115
   Other labs: PT / PTT / INR:13.1/32.4/1.1, CK / CKMB /
   Troponin-T:/4/0.02, ALT / AST:35/54, Alk Phos / T Bili:132/0.2, Amylase
   / Lipase:/43, Differential-Neuts:79.7 %, Band:12.0 %, Lymph:11.7 %,
   Mono:6.0 %, Eos:2.4 %, Lactic Acid:0.7 mmol/L, LDH:238 IU/L, Ca++:8.8
   mg/dL, Mg++:1.8 mg/dL, PO4:3.8 mg/dL
   Assessment and Plan
 NEUROPATHY, PERIPHERAL
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 HYPERTENSION, BENIGN
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   He looks and feels much better.  His cough has imrpoved as has his
   peripheral muscle strength.  BP and HR are up today so we are
   increasing diltiazem and restarting Cozar.  Has some incr stool output
   but no fever. WBC stable. Will recheck C diff but most liekly
   represents withdrawal of fentanyl.  Hct stable and no need for f/u of
   GIB.  Creat has returned to baseline
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2190-12-1**] 01:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 35 minutes

2190-12-09 06:55:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 STOOL CULTURE - At [**2190-12-8**] 01:12 PM
   ? c-diff
 URINE CULTURE - At [**2190-12-9**] 02:28 AM
 BLOOD CULTURED - At [**2190-12-9**] 02:28 AM
 SPUTUM CULTURE - At [**2190-12-9**] 05:16 AM
   - Stopped Dilt and started Metoprolol for sbp's in the 180-190's.
   -per nursing appears delirious overnight
   - In the pm, was unable to move his neck and c/o TTP of cervical
   vertebrae. Was mouth breathing and tachypneic and hacking up sputum,
   when suctioned, were black hunks of junk. Concern for neck process with
   recent h/o PTA. Sent for neck CT with contrast:
   1. Similar-to-slightly smaller low-density collection at the level of
   the left tonsillar pillar. No new collections are identified.
   2. Progressive fluid opacification of the paranasal sinuses and new
   fluid in the mastoid air cells bilaterally. This is likely related to
   protracted intubation, although infection cannot be excluded by
   imaging.
   3. Unchanged patchy ground-glass opacities of the lung apices.
   - Discussed with attending, started on Ceftriaxone and stopped
   Augmentin. Still on Vanc.
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2190-12-8**] 08:45 AM
   Ceftriaxone - [**2190-12-9**] 05:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-12-8**] 08:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-9**] 06:34 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.5
C (99.5
   HR: 93 (78 - 117) bpm
   BP: 157/82(99) {136/43(68) - 199/137(150)} mmHg
   RR: 22 (14 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.1 kg (admission): 60 kg
             Total In:
                                                                    895 mL
                                                                     76 mL
   PO:
                                                                    500 mL
             TF:
   IVF:
                                                                    355 mL
                                                                     76 mL
   Blood products:
   Total out:
                                                                  3,845 mL
                                                                    440 mL
   Urine:
                                                                  2,715 mL
                                                                    440 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,950 mL
                                                                   -364 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   SpO2: 99%
   ABG: ///29/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   634 K/uL
   10.5 g/dL
   154 mg/dL
   1.0 mg/dL
   29 mEq/L
   3.8 mEq/L
   15 mg/dL
   97 mEq/L
   136 mEq/L
   30.7 %
   12.1 K/uL
        [image002.jpg]
                            [**2190-12-3**]  05:04 AM
                            [**2190-12-3**]  03:54 PM
                            [**2190-12-4**]  03:31 AM
                            [**2190-12-4**]  03:51 AM
                            [**2190-12-4**]  11:11 AM
                             [**2190-12-5**]  01:06 AM
                             [**2190-12-5**]  11:51 PM
                             [**2190-12-7**]  04:33 AM
                             [**2190-12-8**]  03:59 AM
                             [**2190-12-9**]  02:20 AM
   WBC
   11.0
   8.1
   9.9
   11.3
   12.1
   Hct
   25.3
   24.4
   26.6
   30.3
   30.7
   Plt
   448
   461
   548
   636
   634
   Cr
   1.3
   1.1
   1.0
   0.9
   1.0
   1.0
   TCO2
   34
   37
   36
   36
   Glucose
   172
   177
   146
   90
   115
   154
   Other labs: PT / PTT / INR:13.1/32.4/1.1, CK / CKMB /
   Troponin-T:/4/0.02, ALT / AST:35/54, Alk Phos / T Bili:132/0.2, Amylase
   / Lipase:/43, Differential-Neuts:83.2 %, Band:12.0 %, Lymph:12.3 %,
   Mono:3.8 %, Eos:0.3 %, Lactic Acid:0.7 mmol/L, LDH:238 IU/L, Ca++:9.1
   mg/dL, Mg++:1.7 mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
 DELIRIUM / CONFUSION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 IMPAIRED SKIN INTEGRITY
 NEUROPATHY, PERIPHERAL
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 HYPERTENSION, BENIGN
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   77 yo male who presents hypoxic in the setting of coffee ground emesis
   and URI with progressive declining respiratory status and hypotension.
   Patient extubated after prolonged intubation because of weakness; now
   with neck pain.
   # Leukocytosis: Patient has had increasing WBC count, yesterday 11.3,
   today 12.1. Afebrile. Concerning in the setting of new symptoms of neck
   pain and black sputum. Was started yesterday on Ceftraixone and
   continued on Vancomycin for empiric coverage for possible meningitis.
   CT head and neck done, shows improvement of PTA; however, sinus
   infection appears worse. Treated with vancomycin for MRSE (completed
   [**8-10**] day course) and augmentin for suspected sinusitis (completed 5 day
   course). Vancomycin started [**2190-12-2**].  Patient does appear to continue
   to have neck pain. Per nursing also appears more delirious over night.
   -Continue fluticasone and saline nasal sprays for ? sinusitis.
   -MRI of head to assess for soft tissue lesions
   -LP if MRI negative
   #Delerium:? Sundowning last night. Concern if this could be related to
   infection. Patient should be up during the day to chair to minimize
   awakening at night.
   -PT consult to get patient OOB
   -Consider re-consulting ENT given that sinusitis not improved
   # Hypertension: Continues hypertensive, max BP 199/137; improved from
   day before.  On metoprolol 75 mg PO/NG TID and Lostartan 25 mg PO/NG
   daily. Diltiazem was d/c
d yesterday.  Alpha-Methyldopa 500mg tabs [**Hospital1 **],
   Cozaar 100mg daily, HCTZ 25mg daily appears to be home medication
   regimen.
   - Continue metoprolol 75 mg PO TID
    - restart losartan at reduced dose of 25mg daily, titrate up today to
   50 mg daily.
   - continue methyldopa
   # Weakness: Generalized weakness, evaluated by neuro who felt likely
   due to myopathy.  Respiratory strength appears to be improving,
   especially now that he is extubated.  H/o dysphagia prior to
   hospitalization. Head CT shows no acute intracranial process.  The
   diagnosis of myopathy in the setting of severe illness seems
   increasingly likely.
   -Continue to monitor clinical exam
    # Respiratory failure: Now extubated with good O2 saturations.  He
   continues to produce copious secretions, but clears them well with
   coughing.
   #Atrial fibrillation w RVR
 Had one episode of afib in the setting of
   fluid overload.  Today he is tachycardic but in sinus rhythm.  No prior
   hx of afib.  Now rate controlled with metoprolol.  Will likely require
   anti-coagulation given high CHADS score, though we are holding off for
   now given recent GI bleed.
   -Continue metoprolol
    # Coffee ground emesis: Upper endoscopy and NG lavage negative, trace
   guiaic positive.  Hematocrit now stable.  Needs colonoscopy when
   stable.
   - PO PPI
   - Maintain active type and screen
   # Chronic renal insufficiency: Cr better than baseline of 1.2-1.4 with
   fluid re-hydration.
   -Trend creatinines daily
   -Avoid hypoperfusion, nephrotoxic agents
   -Will hold on further IVF's for now as Cr at baseline and LOS is up 15L
    # DMII: Glargine 10U qhs with regular insulin sliding scale.
   - Metformin held in setting of increased Cr and requiring scans.
   - Continue Glargine
   # FEN: on regular diet with thickened liquids
   # PPX:
   - On home PPI
   - bowel regimen (colace, senna, lactulose PRN)
   - pneumoboots and Heparin SC.
   # ACCESS: Aline, PIV
   # CODE STATUS: full
   # DISPO: ICU for now; screening fr rehab
   # EMERGENCY CONTACT:  [**First Name8 (NamePattern2) 1298**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 8833**] , Khaym [**Doctor Last Name 8834**]
   [**Telephone/Fax (1) 8835**] , Pail Dushan [**Telephone/Fax (1) 8836**]
   -  Does not have health care proxy->spoke with friend [**Name (NI) **], and nearest
   next of [**Doctor First Name **] is niece [**Name (NI) 1298**] who lives in [**Location 4032**], [**State 254**], who has served as
   HCP on past admissions.  Came down on Saturday ([**12-4**]).
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-12-8**] 10:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   Note was signed prematurely prior to discussing plan with team; please
   see the following addendum:
   1.       Leukocytosis
   a.       Will get MRI of C-spine to assess for possible epidural
   abscess given recent history of ?bacteremia
   b.       Concern for worsening sinusitis; will get ENT consult to see
   if they can aspirate sinuses for source
   c.        Patient [**Last Name (LF) 9141**], [**First Name3 (LF) 116**] also get LFTs to further assess for
   possible source
   d.       D/c ceftriaxone
   e.       Restart augmentin to finish full [**8-10**] day course (currently on
   day6/7).
   2.       Weakness:
   a.       MRI/MRA to assess for stroke per neuro recs as patient does
   appear to be having some difficulty swallowing
   3.       Afib:
   a.       Given that patient had only one episode of afib, will not
   anticoagulate at this time unless has another episode of afib
   b.       ------ Protected Section Addendum Entered By:[**Name (NI) 394**] [**Name (NI) 9142**]
   on:[**2190-12-9**] 14:18 ------
   c.
   d.
   e.       Electronically signed by [**First Name5 (NamePattern1) 394**] [**Last Name (NamePattern1) 9142**]  [**2190-12-9**] 14:18
   f.
   g.

2190-12-10 07:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Difficulty clearing secretions/diffuse weakness
   24 Hour Events:
   - Seen by ENT who got aerobic, anaerobic and fungal cultures.  They
   thought he had some nasal discharge consistent with acute bacterial
   sinusitis, but no evidence of fungal invasive sinusitis.
   - Seen again by speech and swallow, who thought he had improved.  They
   would like a video swallow to assess further.
   - MR ordered but not done yet.
   - Losartan increased to 50mg daily with improvement.
   - LFTs show mildly elevated AST and lipase.
   - Went down to MRI but coughed excessively when lying flat. Did not get
   scan and came back up right away.
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Ceftriaxone - [**2190-12-9**] 05:00 AM
   Vancomycin - [**2190-12-9**] 08:40 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-12-10**] 12:41 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-10**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.6
   HR: 84 (73 - 99) bpm
   BP: 145/59(81) {127/58(79) - 174/102(109)} mmHg
   RR: 21 (14 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.1 kg (admission): 60 kg
             Total In:
                                                                    805 mL
                                                                     25 mL
   PO:
                                                                    250 mL
             TF:
   IVF:
                                                                    555 mL
                                                                     25 mL
   Blood products:
   Total out:
                                                                  1,710 mL
                                                                    385 mL
   Urine:
                                                                  1,710 mL
                                                                    385 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -905 mL
                                                                   -360 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   626 K/uL
   10.4 g/dL
   128 mg/dL
   1.2 mg/dL
   30 mEq/L
   4.3 mEq/L
   16 mg/dL
   98 mEq/L
   137 mEq/L
   30.7 %
   13.2 K/uL
        [image002.jpg]
                            [**2190-12-3**]  03:54 PM
                            [**2190-12-4**]  03:31 AM
                            [**2190-12-4**]  03:51 AM
                            [**2190-12-4**]  11:11 AM
                             [**2190-12-5**]  01:06 AM
                             [**2190-12-5**]  11:51 PM
                             [**2190-12-7**]  04:33 AM
                             [**2190-12-8**]  03:59 AM
                             [**2190-12-9**]  02:20 AM
                             [**2190-12-10**]  04:21 AM
   WBC
   11.0
   8.1
   9.9
   11.3
   12.1
   13.2
   Hct
   25.3
   24.4
   26.6
   30.3
   30.7
   30.7
   Plt
   448
   461
   548
   [**Telephone/Fax (3) 9157**]
   Cr
   1.3
   1.1
   1.0
   0.9
   1.0
   1.0
   1.2
   TCO2
   37
   36
   36
   Glucose
   172
   177
   146
   90
   115
   154
   128
   Other labs: PT / PTT / INR:13.8/29.3/1.2, CK / CKMB /
   Troponin-T:/4/0.02, ALT / AST:43/27, Alk Phos / T Bili:117/0.4, Amylase
   / Lipase:/77, Differential-Neuts:83.2 %, Band:12.0 %, Lymph:12.3 %,
   Mono:3.8 %, Eos:0.3 %, Lactic Acid:0.7 mmol/L, LDH:207 IU/L, Ca++:9.2
   mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Microbiology: Sinus aspirate: PMNs, GPC and GNR.
   [**12/2186**] blood and urine cx: pending
   Assessment and Plan
 LEUKOCYTOSIS
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 DELIRIUM / CONFUSION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 IMPAIRED SKIN INTEGRITY
 NEUROPATHY, PERIPHERAL
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 HYPERTENSION, BENIGN
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   77 yo male who presents hypoxic in the setting of coffee ground emesis
   and URI with progressive declining respiratory status and hypotension.
   Patient extubated after prolonged intubation because of weakness; now
   with neck pain.
   # Leukocytosis: Steadily increasing leukocytosis, today to 13.2.
   Continues to have copious sputum.
   Patient has had increasing WBC count, yesterday 11.3, today 12.1.
   Afebrile. Concerning in the setting of new symptoms of neck pain and
   black sputum. Was started yesterday on Ceftraixone and continued on
   Vancomycin for empiric coverage for possible meningitis.  CT head and
   neck done, shows improvement of PTA; however, sinus infection appears
   worse. Treated with vancomycin for MRSE (completed [**8-10**] day course) and
   augmentin for suspected sinusitis (completed 5 day course). Vancomycin
   started [**2190-12-2**].  Patient does appear to continue to have neck pain.
   Per nursing also appears more delirious over night.
   -Continue fluticasone and saline nasal sprays for ? sinusitis.
   -MRI of head to assess for soft tissue lesions
   -LP if MRI negative
   #Delerium:? Sundowning last night. Concern if this could be related to
   infection. Patient should be up during the day to chair to minimize
   awakening at night.
   -PT consult to get patient OOB
   -Consider re-consulting ENT given that sinusitis not improved
   # Hypertension: Continues hypertensive, max BP 199/137; improved from
   day before.  On metoprolol 75 mg PO/NG TID and Lostartan 25 mg PO/NG
   daily. Diltiazem was d/c
d yesterday.  Alpha-Methyldopa 500mg tabs [**Hospital1 **],
   Cozaar 100mg daily, HCTZ 25mg daily appears to be home medication
   regimen.
   - Continue metoprolol 75 mg PO TID, continue to titrate up losartan to
   75mg daily.
    - restart losartan at reduced dose of 25mg daily, titrate up today to
   50 mg daily.
   - continue methyldopa
   # Weakness: Generalized weakness, evaluated by neuro who felt likely
   due to myopathy.  Respiratory strength appears to be improving,
   especially now that he is extubated.  H/o dysphagia prior to
   hospitalization. Head CT shows no acute intracranial process.  The
   diagnosis of myopathy in the setting of severe illness seems
   increasingly likely.
   -Continue to monitor clinical exam
    # Respiratory failure: Now extubated with good O2 saturations.  He
   continues to produce copious secretions, but clears them well with
   coughing.
   #Atrial fibrillation w RVR
 Had one episode of afib in the setting of
   fluid overload.  Today he is tachycardic but in sinus rhythm.  No prior
   hx of afib.  Now rate controlled with metoprolol.  Will likely require
   anti-coagulation given high CHADS score, though we are holding off for
   now given recent GI bleed.
   -Continue metoprolol
    # Coffee ground emesis: Upper endoscopy and NG lavage negative, trace
   guiaic positive.  Hematocrit now stable.  Needs colonoscopy when
   stable.
   - PO PPI
   - Maintain active type and screen
   # Chronic renal insufficiency: Cr better than baseline of 1.2-1.4 with
   fluid re-hydration.
   -Trend creatinines daily
   -Avoid hypoperfusion, nephrotoxic agents
   -Will hold on further IVF's for now as Cr at baseline and LOS is up 15L
    # DMII: Glargine 10U qhs with regular insulin sliding scale.
   - Metformin held in setting of increased Cr and requiring scans.
   - Continue Glargine
   # FEN: on regular diet with thickened liquids
   # PPX:
   - On home PPI
   - bowel regimen (colace, senna, lactulose PRN)
   - pneumoboots and Heparin SC.
   # ACCESS: Aline, PIV
   # CODE STATUS: full
   # DISPO: ICU for now; screening fr rehab
   # EMERGENCY CONTACT:  [**First Name8 (NamePattern2) 1298**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 8833**] , Khaym [**Doctor Last Name 8834**]
   [**Telephone/Fax (1) 8835**] , Pail Dushan [**Telephone/Fax (1) 8836**]
   -  Does not have health care proxy->spoke with friend [**Name (NI) **], and nearest
   next of [**Doctor First Name **] is niece [**Name (NI) 1298**] who lives in [**Location 4032**], [**State 254**], who has served as
   HCP on past admissions.  Came down on Saturday ([**12-4**]).
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-12-8**] 10:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2190-12-10 10:04:00 Physician Attending Progress Note
Chief Complaint: Pneumonia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Cough increases when supine
   24 Hour Events:
   Seen by ENT - sinus cx done
   History obtained from [**Hospital 31**] Medical records
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Ceftriaxone - [**2190-12-9**] 05:00 AM
   Vancomycin - [**2190-12-9**] 08:40 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-12-10**] 08:00 AM
   Lansoprazole (Prevacid) - [**2190-12-10**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue, Fever, No(t) Weight loss
   Eyes: No(t)  Blurry vision, No(t) Conjunctival edema
   Ear, Nose, Throat: Dry mouth, No(t) Epistaxis, No(t) OG / NG tube
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Edema,
   No(t) Tachycardia, No(t) Orthopnea
   Nutritional Support: NPO, No(t) Tube feeds, No(t) Parenteral nutrition
   Respiratory: Cough, Dyspnea, Tachypnea, No(t) Wheeze
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Genitourinary: No(t) Dysuria, Foley, No(t) Dialysis
   Musculoskeletal: No(t) Joint pain, No(t) Myalgias, Neck pain
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Endocrine: Hyperglycemia, No(t) History of thyroid disease
   Heme / Lymph: No(t) Lymphadenopathy, Anemia, No(t) Coagulopathy
   Neurologic: No(t) Numbness / tingling, No(t) Headache, No(t) Seizure
   Psychiatric / Sleep: No(t) Agitated, No(t) Suicidal, Delirious, No(t)
   Daytime somnolence
   Allergy / Immunology: No(t) Immunocompromised, No(t) Influenza vaccine
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2190-12-10**] 10:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 93 (73 - 99) bpm
   BP: 132/108(113) {127/58(79) - 174/108(113)} mmHg
   RR: 23 (14 - 25) insp/min
   SpO2: 93%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.1 kg (admission): 60 kg
             Total In:
                                                                    805 mL
                                                                    145 mL
   PO:
                                                                    250 mL
                                                                    120 mL
   TF:
   IVF:
                                                                    555 mL
                                                                     25 mL
   Blood products:
   Total out:
                                                                  1,710 mL
                                                                    500 mL
   Urine:
                                                                  1,710 mL
                                                                    500 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -905 mL
                                                                   -355 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 93%
   ABG: ///30/
   Physical Examination
   General Appearance: Well nourished, No(t) No acute distress, No(t)
   Overweight / Obese, No(t) Thin, No(t) Anxious, No(t) Diaphoretic, Frail
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Conjunctiva
   pale, No(t) Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, No(t)
   Endotracheal tube, No(t) NG tube, No(t) OG tube
   Lymphatic: Cervical WNL, Supraclavicular WNL, No(t) Cervical adenopathy
   Cardiovascular: (PMI Normal, No(t) Hyperdynamic), (S1: Normal, No(t)
   Absent), (S2: Normal, No(t) Distant, No(t) Loud, No(t) Widely split ,
   No(t) Fixed), No(t) S3, No(t) S4, No(t) Rub, (Murmur: Systolic, No(t)
   Diastolic), SEM
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric, No(t) Paradoxical),
   (Percussion: Resonant : , No(t) Hyperresonant: , No(t) Dullness : ),
   (Breath Sounds: No(t) Clear : , Crackles : Few mid insp, No(t)
   Bronchial: , No(t) Wheezes : , No(t) Diminished: , No(t) Absent : ,
   No(t) Rhonchorous: )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   No(t) Tender: , No(t) Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, No(t) Sedated, No(t)
   Paralyzed, Tone: Not assessed
   Labs / Radiology
   10.4 g/dL
   626 K/uL
   128 mg/dL
   1.2 mg/dL
   30 mEq/L
   4.3 mEq/L
   16 mg/dL
   98 mEq/L
   137 mEq/L
   30.7 %
   13.2 K/uL
        [image002.jpg]
                            [**2190-12-3**]  03:54 PM
                            [**2190-12-4**]  03:31 AM
                            [**2190-12-4**]  03:51 AM
                            [**2190-12-4**]  11:11 AM
                             [**2190-12-5**]  01:06 AM
                             [**2190-12-5**]  11:51 PM
                             [**2190-12-7**]  04:33 AM
                             [**2190-12-8**]  03:59 AM
                             [**2190-12-9**]  02:20 AM
                             [**2190-12-10**]  04:21 AM
   WBC
   11.0
   8.1
   9.9
   11.3
   12.1
   13.2
   Hct
   25.3
   24.4
   26.6
   30.3
   30.7
   30.7
   Plt
   448
   461
   548
   [**Telephone/Fax (3) 9157**]
   Cr
   1.3
   1.1
   1.0
   0.9
   1.0
   1.0
   1.2
   TCO2
   37
   36
   36
   Glucose
   172
   177
   146
   90
   115
   154
   128
   Other labs: PT / PTT / INR:13.8/29.3/1.2, CK / CKMB /
   Troponin-T:/4/0.02, ALT / AST:43/27, Alk Phos / T Bili:117/0.4, Amylase
   / Lipase:/77, Differential-Neuts:83.2 %, Band:12.0 %, Lymph:12.3 %,
   Mono:3.8 %, Eos:0.3 %, Lactic Acid:0.7 mmol/L, LDH:207 IU/L, Ca++:9.2
   mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
 LEUKOCYTOSIS
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 DELIRIUM / CONFUSION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 IMPAIRED SKIN INTEGRITY
 NEUROPATHY, PERIPHERAL
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 HYPERTENSION, BENIGN
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   He is weaker and his UA function remains v poor. He continues to
   aspirate and his cough is poor. Will discuss with Neuro if this is most
   c/w a vascular event. Likely he is heading for a PEG and possibly a
   trache in the near future and we will discuss with him and his proxy.
   Continuing Augmentin for sinusitis pending results of his cx. Will
   adjust abx based on sinus cx but I am inclined to broaden abx given
   worsening CT scan.
   ICU Care
   Nutrition:
   Comments: placing Dubhoff today
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   20 Gauge - [**2190-12-8**] 10:30 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2190-12-11 07:44:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - NGT placed, then he pulled it out, attempted to replace several times
   unsuccessfully, given 1L NS overnight since he has not been taking in
   PO and UOP decreased
   - Neuro called about dysphagia. Feel that this could not be related to
   stroke b/c if a stroke would be in medulla and he would have sig more
   sx and be less alert. They would like a video swallow study in order to
   fully evaluate etiology of dysphagia.
   - Seems to be weaker and not tolerating secretions as well, needs to
   have a discussion about trach/peg while he is still alert, niece should
   be coming this weekend.
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Ceftriaxone - [**2190-12-9**] 05:00 AM
   Vancomycin - [**2190-12-9**] 08:40 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2190-12-10**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2190-12-11**] 12:30 AM
   Metoprolol - [**2190-12-11**] 04:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-11**] 07:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.2
   Tcurrent: 37.6
C (99.7
   HR: 89 (75 - 107) bpm
   BP: 171/77(100) {103/47(68) - 171/108(113)} mmHg
   RR: 19 (16 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.1 kg (admission): 60 kg
             Total In:
                                                                    145 mL
                                                                    950 mL
   PO:
                                                                    120 mL
             TF:
   IVF:
                                                                     25 mL
                                                                    950 mL
   Blood products:
   Total out:
                                                                    900 mL
                                                                    295 mL
   Urine:
                                                                    900 mL
                                                                    295 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -755 mL
                                                                    655 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   More awake today, alert and appropriate
   RRR
   L wrist with swelling, no erythema or induration, increased warmth
   Labs / Radiology
   623 K/uL
   9.7 g/dL
   117 mg/dL
   1.2 mg/dL
   29 mEq/L
   3.7 mEq/L
   20 mg/dL
   100 mEq/L
   140 mEq/L
   29.5 %
   13.5 K/uL
        [image002.jpg]
                            [**2190-12-4**]  03:31 AM
                            [**2190-12-4**]  03:51 AM
                            [**2190-12-4**]  11:11 AM
                             [**2190-12-5**]  01:06 AM
                             [**2190-12-5**]  11:51 PM
                             [**2190-12-7**]  04:33 AM
                             [**2190-12-8**]  03:59 AM
                             [**2190-12-9**]  02:20 AM
                             [**2190-12-10**]  04:21 AM
                             [**2190-12-11**]  02:09 AM
   WBC
   11.0
   8.1
   9.9
   11.3
   12.1
   13.2
   13.5
   Hct
   25.3
   24.4
   26.6
   30.3
   30.7
   30.7
   29.5
   Plt
   448
   461
   548
   [**Telephone/Fax (3) 9157**]
   623
   Cr
   1.3
   1.1
   1.0
   0.9
   1.0
   1.0
   1.2
   1.2
   TCO2
   36
   36
   Glucose
   172
   177
   146
   90
   115
   154
   128
   117
   Other labs: PT / PTT / INR:14.8/29.0/1.3, CK / CKMB /
   Troponin-T:/4/0.02, ALT / AST:43/27, Alk Phos / T Bili:117/0.4, Amylase
   / Lipase:/77, Differential-Neuts:83.2 %, Band:12.0 %, Lymph:12.3 %,
   Mono:3.8 %, Eos:0.3 %, Lactic Acid:0.7 mmol/L, Albumin:3.3 g/dL,
   LDH:207 IU/L, Ca++:9.6 mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Imaging: CXR
   Video Swallowing: Aspiration of thin barium. Penetration with nectar
   barium.
   Moderate amount of residual in the valleculae.
   Microbiology: Aspirate Gram Stain:
   2+   PMNs
   1+   GRAM POSITIVE COCCI IN PAIRS.
   1+   GRAM NEGATIVE ROD(S).
   Culture pending
   Assessment and Plan
 ALTERATION IN NUTRITION
 LEUKOCYTOSIS
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRE
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 DELIRIUM / CONFUSION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 IMPAIRED SKIN INTEGRITY
 NEUROPATHY, PERIPHERAL
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 HYPERTENSION, BENIGN
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   77 yo male who presents hypoxic in the setting of coffee ground emesis
   and URI with progressive declining respiratory status and hypotension.
   Patient extubated after prolonged intubation because of weakness; now
   with neck pain.
   # Fever/Leukocytosis: Steadily increasing leukocytosis, today to 13.2.
   Fever last night to 101.3, cultures resent.  This morning had low-grade
   fever during rounds and looks more tired than previously.  His neck
   pain has improved and the one source that we have at this point is his
   sinusitis that appeared worsened on his most recent CT scan, though he
   may have aspirated and have a pneumonitis.  His delirium has improved,
   and a CSF source seems very unlikely.  Augmentin -> Unasyn, given that
   he remains febrile.  Completed 7 days of vancomycin for two bottles of
   coag negative staph.
   - Continue fluticasone and saline nasal sprays for ? sinusitis.  Change
   to Unasyn given unable to take PO augmentin.
   - Check CXR today to assess for aspiration.
   # Weakness/respiratory difficulty: Though his generalized strength has
   improved, he has continues to be unable to clear his secretions and is
   at extremely high risk of aspiration.  Video swallowing suggests
   neurologic etiology, this may have been present prior  to
   hospitalization. Head CT shows no acute intracranial process though
   neurology continues to be worried about a past stroke, which may in
   fact be the case.  He has trouble sleeping because he coughs every
   15-20 minutes.  If his weakness persists he may eventually need a
   tracheostomy and PEG placement, simply to provide nutrition while he
   cannot clear his secretions.  We will place a dobhoff for now.
   - Begin to discuss trach and PEG as a possibility with patient.
   - Dobhoff placement for now.  NPO until that is placed.
   - Keep him upright as much as possible.
   - MRI/MRA when able
   #. L wrist pain and edema: No obvious infection overlying.
   - LUE u/s to eval for thrombus
   # Hypertension: Improved control with increasing losartan.  Still has
   room to increase to 75mg daily.  Home dose was 100mg daily.
   - continue metoprolol 75mg daily.
   # Atrial fibrillation w RVR
 Had one episode of afib in the setting of
   fluid overload.  Since he has been in sinus rhythm.  A fib was likely
   due to fluid overload.  We will continue to monitor, but he will likely
   not require anticoagulation.
    # Coffee ground emesis: Upper endoscopy and NG lavage negative, trace
   guiaic positive.  Hematocrit now stable.  Needs colonoscopy when
   stable.
   - PO PPI
   - Maintain active type and screen
   # Chronic renal insufficiency: Cr better than baseline of 1.2-1.4 with
   fluid re-hydration.
   -Trend creatinines daily
   -Avoid hypoperfusion, nephrotoxic agents
   -Will hold on further IVF's for now as Cr at baseline and LOS is up 15L
    # DMII: Glargine 10U qhs with regular insulin sliding scale.
   - Metformin held in setting of increased Cr and requiring scans.
   # FEN: on regular diet with thickened liquids
   # PPX:
   - On home PPI
   - bowel regimen (colace, senna, lactulose PRN)
   - pneumoboots and Heparin SC.
   # ACCESS: Aline, PIV
   # CODE STATUS: full
   # DISPO: ICU for now.  Not suitable for rehab at this time.
   # EMERGENCY CONTACT:  [**First Name8 (NamePattern2) 1298**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 8833**] , Khaym [**Doctor Last Name 8834**]
   [**Telephone/Fax (1) 8835**] , Pail Dushan [**Telephone/Fax (1) 8836**]
   -  Does not have health care proxy->spoke with friend [**Name (NI) **], and nearest
   next of [**Doctor First Name **] is niece [**Name (NI) 1298**] who lives in [**Location 4032**], [**State 254**], who has served as
   HCP on past admissions.  Came down on Saturday ([**12-4**]).
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-12-11**] 03:16 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   I have seen and examined the pt, & was physically present with the ICU
   team for the key portions of services provided. I agree with Dr.
   [**Last Name (STitle) 8866**]
s note, including assessment and plan. I would add:
   82 yo m admitted /intubated ([**Date range (1) 9175**]) with PNA. Persistent
   aspiration with worsening weakness
   Overnight: febrile to 101.2
   oxygen req. unchanged (3 liters nc)
   PE: sitting in chair, conversant, weak, audibly congested
   Lungs: scattered infrequent crackles
   CV: RRR
   Abd: soft, nt+bs
   Ext: left hand swelling (new), +DP pulses
   WBC 13, Hct 29 (unchanged), Cr 1.2
   Rx: methyldopa, senna, flonase, PPI, vanco finished, insulin, losartan,
   augmentin
   (1)Fevers/leukocytosis: possible sources aspiration vs sinuses.
   Leukocytosis unchanged , but has been unable to take augmentin due to
   problems with NGT, switch to Unasyn
   (2)Weakness: degree waxes and wanes. Possibly from systemic illness,
   followd by neurology
   Pt looks more alert and stronger today than he apparently did earlier
   this wk. However the overall pattern has been that of waxing and [**Doctor Last Name 282**]
   strength/mentation. Plan to address potential need for PEG/trach today
   once family arrives
   (3)left hand swelling: UE doppler to r/o DVT
   Pt is critically ill. Total time spent: 35 minutes.
   ------ Protected Section Addendum Entered By:[**Name (NI) 341**] [**Last Name (NamePattern1) **], MD
   on:[**2190-12-11**] 12:24 ------

2190-12-12 07:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Fevers and cough
   24 Hour Events:
 BLOOD CULTURED - At [**2190-12-11**] 10:40 AM
   second set of blood cxs drawn peripherally.
 ULTRASOUND - At [**2190-12-11**] 02:10 PM
   - NGT: ridiculous time trying to get it into place. Had 5 CXR's --> but
   FINALLY in place! --> TF's started and increased to goal of 55cc/hr
   - Augmentin stopped and Unasyn started, will put back to Augmentin when
   NGT in place and usable --> started back on Augmentin
   - Has newly noticed L wrist/hand swelling, no erythema or tenderness
   --> through the day has developed erythema, tenderness, and getting
   more swollen. Getting LUE --> negative for DVT. --> watch and wait for
   now --> gout vs infxn
   - Need to discuss with niece abt getting trach/PEG
   - Metoprolol increased to 75 tid
   - Will need to ask Neuro to re-see him
   - Low grade fevers through the day, and bp going higher
   -Early this morning pulled out NGT tube and had dobhoff placed by
   nurse.  Needs to be advanced by initial CXR.
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Vancomycin - [**2190-12-9**] 08:40 PM
   Ampicillin/Sulbactam (Unasyn) - [**2190-12-11**] 12:03 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-12-11**] 04:18 PM
   Metoprolol - [**2190-12-11**] 04:18 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-12**] 07:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 38.1
C (100.6
   HR: 109 (84 - 110) bpm
   BP: 170/83(103) {137/63(86) - 185/92(109)} mmHg
   RR: 25 (16 - 29) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78.1 kg (admission): 60 kg
                  Total In:
                                                                  1,287 mL
                                                                    110 mL
   PO:
                  TF:
                                                                     77 mL
                                                                     80 mL
   IVF:
                                                                  1,100 mL
   Blood products:
   Total out:
                                                                    965 mL
                                                                    380 mL
   Urine:
                                                                    965 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    322 mL
                                                                   -270 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   More awake today, alert and appropriate
   RRR
   L wrist with swelling, no erythema or induration, increased warmth
   Labs / Radiology
   599 K/uL
   9.8 g/dL
   110 mg/dL
   1.2 mg/dL
   25 mEq/L
   3.8 mEq/L
   22 mg/dL
   102 mEq/L
   140 mEq/L
   29.4 %
   13.7 K/uL
        [image002.jpg]
                            [**2190-12-4**]  03:51 AM
                            [**2190-12-4**]  11:11 AM
                             [**2190-12-5**]  01:06 AM
                             [**2190-12-5**]  11:51 PM
                             [**2190-12-7**]  04:33 AM
                             [**2190-12-8**]  03:59 AM
                             [**2190-12-9**]  02:20 AM
                             [**2190-12-10**]  04:21 AM
                             [**2190-12-11**]  02:09 AM
                             [**2190-12-12**]  04:00 AM
   WBC
   8.1
   9.9
   11.3
   12.1
   13.2
   13.5
   13.7
   Hct
   24.4
   26.6
   30.3
   30.7
   30.7
   29.5
   29.4
   Plt
   461
   548
   636
   634
   626
   623
   599
   Cr
   1.1
   1.0
   0.9
   1.0
   1.0
   1.2
   1.2
   1.2
   TCO2
   36
   36
   Glucose
   177
   146
   90
   115
   154
   128
   117
   110
   Other labs: PT / PTT / INR:14.8/29.0/1.3, CK / CKMB /
   Troponin-T:/4/0.02, ALT / AST:43/27, Alk Phos / T Bili:117/0.4, Amylase
   / Lipase:/77, Differential-Neuts:77.7 %, Band:12.0 %, Lymph:15.7 %,
   Mono:5.4 %, Eos:0.9 %, Lactic Acid:0.7 mmol/L, Albumin:3.3 g/dL,
   LDH:207 IU/L, Ca++:9.4 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Imaging: CXR: ?widened mediastinum, lung fields clear.
   Microbiology: [**12-9**] Sinus aspirate: commensal flora
   [**12-11**] blood cx: pending
   [**12-11**] urine cx: pending
   Assessment and Plan
 ALTERATION IN NUTRITION
 LEUKOCYTOSIS
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 DELIRIUM / CONFUSION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 IMPAIRED SKIN INTEGRITY
 NEUROPATHY, PERIPHERAL
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 HYPERTENSION, BENIGN
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   77 yo male who presents hypoxic in the setting of coffee ground emesis
   and URI with progressive declining respiratory status and hypotension.
   Patient extubated after prolonged intubation because of weakness; now
   with neck pain.
   #. L wrist pain and edema: No obvious infection overlying.  Pain seems
   localized to wrist and thumb.  LUE U/S yesterday was negative.  Ddx is
   infectious vs gout.  Gout could also explain his mild leukocytosis and
   low-grade fevers.  Hand films are normal except for degenerative
   changes.
   - Rhematology consult.
   - LUE u/s to eval for thrombus
   # Fever/Leukocytosis: Very slowly increasing leukocytosis, today to
   13.7.  Low-grade fevers only last night to 100.7.  His neck pain has
   improved and the one source that we have at this point is his sinusitis
   that appeared worsened on his most recent CT scan.  Augmentin -> Unasyn
   in the setting of inconsistent PO access and missed doses.  Completed 7
   days of vancomycin for two bottles of coag negative staph.
   - Continue fluticasone and saline nasal sprays for ? sinusitis.
   - Plan for 14-day course of augmentin/Unasyn.
   # Weakness/respiratory difficulty: His respiratory status has improved
   now that he is NPO, suggesting that he may have been chronically
   coughing on food.  If he is to remain NPO, he may require PEG placement
   in the long run.  Though his generalized strength has improved, he
   continues to be unable to clear his secretions.  Video swallowing
   suggests neurologic etiology, this may have been present prior to
   hospitalization.  He has trouble sleeping because he coughs every 15-20
   minutes.
   - Dobhoff in place for now.  [**Month (only) 11**] require soft restraints at night to
   prevent from pulling dobhoff again.
   - Discuss possible PEG with patient.
   - Re-consult neurology as to source of persistently depressed gag
   reflex.
   - Keep him upright as much as possible.
   - MRI/MRA when able
   # Hypertension: Has been responding to increasing doses of
   antihypertensives.  Yesterday could only receive POs for part of the
   day so he did not receive all of his medications so we will not make
   changes today.
   - continue metoprolol 75mg TID and losartan 75mg daily.
   # Atrial fibrillation w RVR
 Had one episode of afib in the setting of
   fluid overload.  Since he has been in sinus rhythm.  A fib was likely
   due to fluid overload.  We will continue to monitor, but he will likely
   not require anticoagulation.
    # Coffee ground emesis: Upper endoscopy and NG lavage negative, trace
   guiaic positive.  Hematocrit now stable.  Needs colonoscopy when
   stable.
   - PO PPI
   - Maintain active type and screen
   # Chronic renal insufficiency: Cr stable at 1.2, which is his baseline.
   -Avoid hypoperfusion, nephrotoxic agents
    # DMII: Glargine 10U qhs with regular insulin sliding scale.
   - Metformin held in setting of increased Cr and requiring scans.
   # FEN: on regular diet with thickened liquids
   # PPX:
   - On home PPI
   - bowel regimen (colace, senna, lactulose PRN)
   - pneumoboots and Heparin SC.
   # ACCESS: PIV
   # CODE STATUS: full
   # DISPO: ICU for now.  [**Month (only) 11**] reconsider ICU tomorrow
   # EMERGENCY CONTACT:  [**First Name8 (NamePattern2) 1298**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 8833**] , Khaym [**Doctor Last Name 8834**]
   [**Telephone/Fax (1) 8835**] , Pail Dushan [**Telephone/Fax (1) 8836**]
   -  Does not have health care proxy->spoke with friend [**Name (NI) **], and nearest
   next of [**Doctor First Name **] is niece [**Name (NI) 1298**] who lives in [**Location 4032**], [**State 254**], who has served as
   HCP on past admissions.  Came down on Saturday ([**12-4**]).
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-12-11**] 03:16 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2190-12-13 08:07:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Pulled NGT early in the am and another placed
   - Hand and wrist films showed degenerative changes but no acute
   process.
   - Seen by rheumatology, also had swollen left great toe, clinically
   gout, did not feel a joint tap was necessary.  Started on 20mg
   prednisone.
   - Rheum recommended repeat uric acid level in 4 weeks, can be falsely
   normal in acute gout.
   - Seen by weekend neurology team. Not an 'acute'
   - Spoke to him about PEG tube.  He wanted to hear what neurology
   thought first, but then would be willing if we thought a PEG tube was
   necessary.
   - Hypertensive to 175/81 at 11pm after receiving all meds.  Gave 1-time
   dose of 25mg of losartan with plan to go up to 100mg tomorrow.  Could
   also reconsider adding back home HCTZ.
   Allergies:
   Zestril (Oral) (Lisinopril)
   Cough;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2190-12-12**] 08:29 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2190-12-12**] 11:21 AM
   Heparin Sodium (Prophylaxis) - [**2190-12-12**] 04:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-12-13**] 08:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.5
C (97.7
   HR: 93 (77 - 117) bpm
   BP: 178/86(111) {139/64(83) - 180/106(122)} mmHg
   RR: 21 (18 - 26) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78.1 kg (admission): 60 kg
             Total In:
                                                                  1,949 mL
                                                                    405 mL
   PO:
             TF:
                                                                    419 mL
                                                                    324 mL
   IVF:
                                                                  1,260 mL
                                                                     81 mL
   Blood products:
   Total out:
                                                                  1,285 mL
                                                                    480 mL
   Urine:
                                                                  1,285 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    664 mL
                                                                    -75 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: ///28/
   Physical Examination
   Gen: Lying in bed, reporting he is bored and bed uncomfortable
   HEENT: MMM, Dobhoff in place
   CV: RRR, no M/R/G
   Lungs: decreased breath sounds at bases
   [**Last Name (un) **]: NABS, soft, ND, NT
   Extrem: Inflammation/tenderness left great toe slightly improved. Left
   thumb and wrist joint tenderness improved. LUE still mildly edematous
   Labs / Radiology
   576 K/uL
   8.9 g/dL
   143 mg/dL
   0.9 mg/dL
   28 mEq/L
   3.5 mEq/L
   21 mg/dL
   105 mEq/L
   142 mEq/L
   26.8 %
   13.2 K/uL
        [image002.jpg]
                            [**2190-12-4**]  11:11 AM
                             [**2190-12-5**]  01:06 AM
                             [**2190-12-5**]  11:51 PM
                             [**2190-12-7**]  04:33 AM
                             [**2190-12-8**]  03:59 AM
                             [**2190-12-9**]  02:20 AM
                             [**2190-12-10**]  04:21 AM
                             [**2190-12-11**]  02:09 AM
                             [**2190-12-12**]  04:00 AM
                             [**2190-12-13**]  03:43 AM
   WBC
   8.1
   9.9
   11.3
   12.1
   13.2
   13.5
   13.7
   13.2
   Hct
   24.4
   26.6
   30.3
   30.7
   30.7
   29.5
   29.4
   26.8
   Plt
   461
   548
   636
   634
   [**Telephone/Fax (2) 9207**]76
   Cr
   1.1
   1.0
   0.9
   1.0
   1.0
   1.2
   1.2
   1.2
   0.9
   TCO2
   36
   Glucose
   177
   146
   90
   115
   154
   128
   117
   110
   143
   Other labs: PT / PTT / INR:14.8/29.0/1.3, CK / CKMB /
   Troponin-T:/4/0.02, ALT / AST:43/27, Alk Phos / T Bili:117/0.4, Amylase
   / Lipase:/77, Differential-Neuts:77.7 %, Band:12.0 %, Lymph:15.7 %,
   Mono:5.4 %, Eos:0.9 %, Lactic Acid:0.7 mmol/L, Albumin:3.3 g/dL,
   LDH:207 IU/L, Ca++:8.5 mg/dL, Mg++:1.8 mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 ALTERATION IN NUTRITION
 LEUKOCYTOSIS
 BALANCE, IMPAIRED
 GAIT, IMPAIRED
 KNOWLEDGE, IMPAIRED
 MUSCLE PERFORMACE, IMPAIRED
 RESPIRATION / GAS EXCHANGE, IMPAIRED
 TRANSFERS, IMPAIRED
 DELIRIUM / CONFUSION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 IMPAIRED SKIN INTEGRITY
 NEUROPATHY, PERIPHERAL
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 HYPERTENSION, BENIGN
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 ELECTROLYTE & FLUID DISORDER, OTHER
 FEVER (HYPERTHERMIA, PYREXIA, NOT FEVER OF UNKNOWN ORIGIN)
   77 yo male who presents hypoxic in the setting of coffee ground emesis
   and URI with progressive declining respiratory status and hypotension.
   Patient extubated after prolonged intubation because of weakness.
   Continues with di
   #. Gout: No obvious infection overlying.  Pain seems localized to wrist
   and thumb.  LUE U/S [**12-11**] was negative.  Gout could also explain his
   mild leukocytosis and low-grade fevers.  Hand films are normal except
   for degenerative changes. Foot finding of podagra per rheumatology
   classic for gout, did need tap of joint.
   - Prednisone 20 mg PO daily x3 days
   -F/u uric acid in 4 weeks as this can be falsely normal in acute gout.
   # Fever/Leukocytosis: Leukocytosis slowly improving, afebrile yesterday
   in the setting of prednisone yesterday for gout. Gout may explain
   leukocytosis as well as low grade fevers.   His neck pain has improved,
   sinusitis appeared worsened on his most recent CT scan.  Augmentin ->
   Unasyn in the setting of inconsistent PO access and missed doses.
   Completed 7 days of vancomycin for two bottles of coag negative staph.
   - Continue fluticasone and saline nasal sprays for ? sinusitis.
   - Plan for 14-day course of augmentin/Unasyn.
   # Weakness/respiratory difficulty: His respiratory status has improved
   now that he is NPO, suggesting that he may have been chronically
   coughing on food.  If he is to remain NPO, he may require PEG placement
   in the long run.  Though his generalized strength has improved, he
   continues to be unable to clear his secretions.  Video swallowing
   suggests neurologic etiology, this may have been present prior to
   hospitalization.  He has trouble sleeping because he coughs every 15-20
   minutes.  Neurology plans to assess his weakness and difficulty
   swallowing further today
   - Dobhoff in place for now.  [**Month (only) 11**] require soft restraints at night to
   prevent from pulling dobhoff again.
   - Patient amenable to PEG if neuro feels swallowing will not improve
   quickly
   - F/u neurology as to source of persistently depressed gag reflex.
   - Keep him upright as much as possible.
   # Hypertension: Has been responding to increasing doses of
   antihypertensives.  Yesterday could only receive POs for part of the
   day so he did not receive all of his medications so we will not make
   changes today.
   - continue metoprolol 75mg TID and losartan 100mg daily.
   -add HCTZ tomorrow if necessary to control blood pressure and restart
   home regimen
   # Atrial fibrillation w RVR
 Had one episode of afib in the setting of
   fluid overload.  Since he has been in sinus rhythm.  A fib was likely
   due to fluid overload.  We will continue to monitor, but he will likely
   not require anticoagulation.
    # Coffee ground emesis: Upper endoscopy and NG lavage negative, trace
   guiaic positive.  Hematocrit now stable.  Needs colonoscopy when
   stable.
   - PO PPI
   - Maintain active type and screen
   # Chronic renal insufficiency: Cr stable at 0.9, which is his baseline.
   -Avoid hypoperfusion, nephrotoxic agents
    # DMII: Glargine 10U qhs with regular insulin sliding scale.
   - Metformin held in setting of increased Cr and requiring scans.
   # FEN: TF
   # PPX:
   - On home PPI
   - bowel regimen (colace, senna, lactulose PRN)
   - pneumoboots and Heparin SC.
   # ACCESS: PIV
   # CODE STATUS: full
   # DISPO: call out to floor. PT to see for rehab
   # EMERGENCY CONTACT:  [**First Name8 (NamePattern2) 1298**] [**Last Name (NamePattern1) **] [**Telephone/Fax (1) 8833**] , Khaym [**Doctor Last Name 8834**]
   [**Telephone/Fax (1) 8835**] , Pail Dushan [**Telephone/Fax (1) 8836**]
   -  Does not have health care proxy->spoke with friend [**Name (NI) **], and nearest
   next of [**Doctor First Name **] is niece [**Name (NI) 1298**] who lives in [**Location 4032**], [**State 254**], who has served as
   HCP on past admissions.  Came down on Saturday ([**12-4**]).
   ICU Care
   Nutrition:
   Nutren Pulmonary (Full) - [**2190-12-12**] 11:21 AM 40 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2190-12-11**] 03:16 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: